2163-01-17 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2163-1-16**] 07:04 PM
 PRESEP CATHETER - START [**2163-1-16**] 07:05 PM
   Pt presented to ED c/o Left hip pain, found to have UTI & hypotension,
   fluid resussitated, admitted on levophed.  WBC rising on Zosyn.  Pt
   still c/o Left pain, some relief with Dilaudid.  Otherwise, no
   SOB/CB/Abd pain
   On team rounds, pt c/o nauseated & having some emesis, complaining of
   diffuse/achey pains, but mentating well and denying any SOB.
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-17**] 04:23 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin, Insulin, Famotidine
   Other medications:
   Tamoxifen
   Dilaudid
   Heparin
   Bisacodyl
   Allopurinol
   Flowsheet Data as of  [**2163-1-17**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.5
C (95.9
   HR: 84 (69 - 88) bpm
   BP: 127/41(59) {80/34(46) - 127/57(70)} mmHg
   RR: 14 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 21 (0 - 21)mmHg
   SvO2: 76%
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  6,663 mL
                                                                  1,883 mL
   PO:
   TF:
   IVF:
                                                                  1,663 mL
                                                                  1,883 mL
   Blood products:
   Total out:
                                                                    383 mL
                                                                    105 mL
   Urine:
                                                                     83 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,280 mL
                                                                  1,778 mL
   Respiratory support: 2L NC
   SpO2: 99%
   ABG: 7.24/55/139/26/-4
   Physical Examination
   General Appearance: NAD, comfortable
   Cardiovascular: (S1: Normal), (S2: Normal) quiet heart sounds, gr2-3
   early peaking ejection murmur, prominent S2
   Resp: CTAB
   Abd: soft, NT/ND, NABS
   Extr: trace to +1 pitting edema
   Skin:  warm, pink
   Neuro: appropriate
   Labs / Radiology
   Renal U/S:
   IMPRESSION:  Limited portable ultrasound performed.  No hydronephrosis
   or
   stones in the left kidney.  The right kidney which is small could not b
   e
   visualized given overlying bowel gas.  A CT abdomen and pelvis may be o
   btained
   if warranted for further evaluation.
   Bilateral Hip films
                             Preliminary Report
   No cortical irregularity or disruption of trabecular lines detected to
   suggest
   acute fracture in the left hip.  Right hip replacement and pelvis simil
   ar in
   appearence to previous.  No hip dislocation. Given osteopenia, dedicate
   d left
   hip views vs CT/MRI may be considered if indicated to evaluate subtle
   fractures.
   CXR:
   IMPRESSION:
   1.  Low-lying new central venous catheter, which should be partially
   withdrawn; no definite pneumothorax.
   2.  CHF with bilateral pleural effusions.
   121 K/uL
   10.1 g/dL
   89 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   58 mg/dL
   106 mEq/L
   140 mEq/L
   32.9 %
   24.5 K/uL
        [image002.jpg]
                             [**2163-1-16**]  05:23 PM
                             [**2163-1-16**]  08:30 PM
                             [**2163-1-16**]  10:15 PM
                             [**2163-1-17**]  04:30 AM
   WBC
   20.6
   24.5
   Hct
   30
   31.6
   32.9
   Plt
   83
   121
   Cr
   2.3
   2.4
   TropT
   0.11
   0.12
   TCO2
   25
   Glucose
   147
   89
   Other labs: PT / PTT / INR:15.0/32.1/1.3, CK / CKMB /
   Troponin-T:45/9/0.12, Lactic Acid:1.1 mmol/L, LDH:145 IU/L, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   86 y/o F with PMHx of Renal Cell Carcinoma, Ovarian Ca, recurrent UTIs
   on chronic prophylaxis of Keflex p/w Left hip pain & found to be
   hypotensive in ED with UTI,  adm to [**Hospital Unit Name 44**] with urosepsis on levophed
   with rising WBC ct.
   #Urosepsis: Pt with h/o recurrent UTIs on prophylactic Keflex, recent
   urine Cx positive for pan-sensitive Psuedomonas, now uroseptic and
   urine cx pending.  Pt having poor UOP despite volume resuscitation,
   still on Levophed and unable to wean o/n.
   - continue Zosyn for now, d/w ID- would avoid gentamicin due to renal
   toxicity and no FQ due to allergy
   - adding Vancomycin for indwelling portocath
   - concern for indwelling hip hardware & portocath giving likely
   bacteremia
   - will gently fluid bolus today, monitor for UOP response
   - A line placement today, attempt to wean pressors
   - Zofran TID prn nausea
   # Left Hip pain: etiology unclear and plain films negative for fracture
   - MRI pending, pt currently to unstable for transfer
   - repeat exam, attempt ROM after dilaudid to r/o septic joint
   #Acute on Chronic Renal Failure: likely due to UTI/sepsis & moderate AS
   still having poor UOP and requiring pressors, will attempt gentle fluid
   boluses today
   - monitor UOP with boluses
   # CHF/Severe AS: Moderate to Severe AS with valve area of 0.7cm &
   recent LVEF of 45% on lasix & nitrates as outpt
   - likely very preload dependant, attempting fluid boluses.  CXR reveals
   CHF with bilateral effusions, but pt denying SOB, sating well on 2L
   NC.  Unable to wean from pressors o/n, continue Levophed
   - intermittent A-Fib noted on telemetry, monitor for now, no need for
   anticoagulation in first 24-48hrs.
   # GOUT- continue allopurinol renally dosed
   # h/o Ovarian Cancer, RCC:  RCC treated with Gammaknife.  H/o treatment
   for ovarian not documented in [**Last Name (LF) 1163**], [**First Name3 (LF) 178**]  continue Tamoxifen and d/w
   patient/family to clarify history
   Nutrition: NPO for now on IVF
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2163-01-17 09:46:00 Physician Attending Progress Note
Chief Complaint: Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86F with hx RCC, presented to ED with hip pain. Found to be in shock,
   with positive UA.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2163-1-16**] 07:04 PM
 PRESEP CATHETER - START [**2163-1-16**] 07:05 PM
   Started Zosyn
   6.6L NS
   Levophed, now tapering
   Converted to AF (new)
   Oliguric
   Renal U/S prelim no perinephric abscess/pyelo
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-17**] 04:23 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-1-17**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Currently complaining of chills, nausea
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema, Tachycardia, af
   Gastrointestinal: Nausea, Emesis
   Genitourinary: Foley, oliguria
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2163-1-17**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.5
C (95.9
   HR: 89 (69 - 89) bpm
   BP: 120/48(66) {80/34(46) - 127/57(70)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm), AF (Atrial Fibrillation)
   CVP: 21 (0 - 21)mmHg
   SvO2: 78%
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  6,663 mL
                                                                  1,955 mL
   PO:
   TF:
   IVF:
                                                                  1,663 mL
                                                                  1,955 mL
   Blood products:
   Total out:
                                                                    383 mL
                                                                    123 mL
   Urine:
                                                                     83 mL
                                                                    123 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,280 mL
                                                                  1,832 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.24/55/139/26/-4
   Physical Examination
   General Appearance: Thin, Anxious
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   121 K/uL
   89 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   58 mg/dL
   106 mEq/L
   140 mEq/L
   32.9 %
   24.5 K/uL
        [image002.jpg]
                             [**2163-1-16**]  05:23 PM
                             [**2163-1-16**]  08:30 PM
                             [**2163-1-16**]  10:15 PM
                             [**2163-1-17**]  04:30 AM
   WBC
   20.6
   24.5
   Hct
   30
   31.6
   32.9
   Plt
   83
   121
   Cr
   2.3
   2.4
   TropT
   0.11
   0.12
   TCO2
   25
   Glucose
   147
   89
   Other labs: PT / PTT / INR:15.0/32.1/1.3, CK / CKMB /
   Troponin-T:45/9/0.12, Lactic Acid:1.1 mmol/L, LDH:145 IU/L, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
   - Continue Zosyn, add additional gram negative coverage (will d/w ID)
   - Follow up culture data
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): Likely GU source, but
   portacath and hip are also very possible sources.
   If worsening, increased pressor needs consider porta cath removal
    Currently on Levophed, clinically requires additional fluid challenge.
   - Broaden GNR coverage (as above), also add Vanco for gram positives.
   - Place A-line for hemodynamic monitoring
   - Will consider further imaging of hip when stable for MRI or CT,
   concern for infection or pathologic fx given pain
   - Consider dobutamine if SVO2 remains low
recheck after additional IVF
   boluses
   * Afib: new, likely related to acute illness, levophed
   - Attempt to wean levophed
   - Hold off on anticoag for now
   - Obtain 12-lead EKG
   - Cycle cardiac enzymes
   * Nausea/vomiting: [**Month (only) 60**] be related to dilaudid, ruling out cardiac
   etiology
   - Zofran PRN
   - Cycle enzymes
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 CANCER (MALIGNANT NEOPLASM), OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   45

2163-01-18 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2163-1-17**] 11:30 AM- Afib, RBBB, no acute ST-T waves changes
 ARTERIAL LINE - START [**2163-1-17**] 04:15 PM
   - CE negative
   - vanc added
   - urine grew out pseudomonas, did not double cover per ID
   - MRI hip ordered, not performed
   - uable to wean pressors overnight
   Pt doing okay this am, still some L hip pain, but otherwise, breathing
   comfortably, no CP/SOB/Abd pain.
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-17**] 09:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-18**] 04:12 AM
   Infusions:
   Other ICU medications:
   Heparin TID, Allopurinol,
   Famotidine, Tamoxifen,
   Dilaudid, Zofran, Insulin,
   Bisacodyl, Colace
   Other medications:
   Flowsheet Data as of  [**2163-1-18**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 90 (84 - 101) bpm
   BP: 94/40(60) {90/37(-17) - 109/44(66)} mmHg
   RR: 16 (9 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 13 (13 - 27)mmHg
   SvO2: 75%
   Total In:
                                                                  6,279 mL
                                                                    214 mL
   PO:
                                                                  1,020 mL
   TF:
   IVF:
                                                                  5,259 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                    159 mL
                                                                     20 mL
   Urine:
                                                                    159 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,120 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   GEN: NAD, comfortable, HOH
   HEENT: RIJ in place, NCAT, unable to visualize JVP
   CV: irreg/irreg, gr [**12-26**] early peaking SEM over LSB, prominent S2
   Resp: CTAB ant lung fields, [**Month (only) 38**] BS over LLL, no w/r
   ABD: soft/NT/ND/NABS
   EXTR: 2+ pitting edema bilaterally
   Neuro: AXO, HOH
   Labs / Radiology
   114 K/uL
   9.9 g/dL
   88 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   60 mg/dL
   101 mEq/L
   133 mEq/L
   32.9 %
   28.6 K/uL
        [image002.jpg]
                             [**2163-1-16**]  05:23 PM
                             [**2163-1-16**]  08:30 PM
                             [**2163-1-16**]  10:15 PM
                             [**2163-1-17**]  04:30 AM
                             [**2163-1-17**]  02:04 PM
                             [**2163-1-18**]  05:30 AM
   WBC
   20.6
   24.5
   33.3
   28.6
   Hct
   30
   31.6
   32.9
   31.6
   32.9
   Plt
   83
   121
   114
   114
   Cr
   2.3
   2.4
   2.4
   2.9
   TropT
   0.11
   0.12
   0.11
   TCO2
   25
   Glucose
   147
   89
   74
   88
   Other labs: PT / PTT / INR:15.0/32.1/1.3, CK / CKMB /
   Troponin-T:39/8/0.11, Lactic Acid:1.1 mmol/L, LDH:145 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan:
   86 y/o F with PMHx of severe AS with EF of 45%, Renal Cell Ca and
   Ovarian Ca who presented with L hip pain and presumed urosepsis,
   clinical status deteriorated this afternoon with oliguria & acidosis,
   increased pressor requirement & MS changes.  Pt was intubated and ABG
   improving on vent.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): Pt presented with positive
   UA, hypotension and presumed urosepsis, but was covered with Vanc/Zosyn
   for 48hrs unable to wean from pressors.  WBC ct rising, worsening
   acidosis and developped Afib with RVR & hypotension requiring addl
   pressors.  Pt was bolused 2.5L and converted, but MS deteriorated & pt
   was intubated for airway protection and acidosis. Post intubation, pt
   was able to wean from pressors. ABG 7.29/38/252
   - will [**Month (only) 38**] FiO2 and repeat ABG
   - apprec ID consult, will monitor BPs overnight, if clinically
   deteriorates, will broaden coverage to Meropenem/Vanc
   - bolus IVF prn, no pressor requirement currently
   - follow CT chest/abd/pelv read, ruling out abscess, septic joint or
   infected hardware
   - consider d/c portocath in am
   - f/u blood & urine cultures, Urine +pseudomonas
sensitivities pending
 SHOCK, CARDIOGENIC: Pt developped Afib with RVR and became
   hypotensive.  Responded to fluid boluses, then post-intubation, all
   pressors weaned and BP stable.  Pt was loaded with digoxin
   - f/u am digoxin level on [**1-20**]
   - fluid bolus prn A.fib & consider amiodarone vs cardioversion if
   uncontrolled RVR
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Apprec renal consult
   for pt with oliguric renal failure likely due to ATN but urine sediment
   revealed sheets of WBCs,  unable to further assess sediment.
   - currently oliguric and extravascularly volume overloaded
   - resp status stable on vent, no acute indication for dialysis
   - renally dose meds, starting phoslo & monitor lytes [**Hospital1 **]
 AORTIC STENOSIS: AS with valve area 0.7cm, very preload dependant,
   bolus fluid prn and avoid BB/CCBs.
   - continue digoxin, monitor for worsening CHF
 URINARY TRACT INFECTION (UTI): presumed source of sepsis, currently
   in oliguric RF, foley in place
   - continue Vanc/Zosyn for coverage of pseudomonas species, waiting on
   sensitivities
LEFT HIP PAIN: unknown etiology, concern for fluid collection/septic
   joint.  Apprec ortho consult
   - f/u CT pelvis and continue Vanc/Zosyn.  Intubated with fentanyl for
   sedation & pain control.
   ICU Care
   Nutrition: NPO with OG in place for meds
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: Heparin 5000 TID
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2163-01-18 12:08:00 Physician Attending Progress Note
Chief Complaint: Urosepsis
   I saw and examined the patient, and was physically present with the for
   key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: 86 yo F with severe AS admitted with urosepsis and L hip pain,
   with persistent vasopressor requirements, leukocytosis, and anuric ARF
   24 Hour Events:
 EKG - At [**2163-1-17**] 11:30 AM: afib, no ischemic change
 ARTERIAL LINE - START [**2163-1-17**] 04:15 PM
   * U cx with pseudomonas
   * Oliguric
   * Remains on levophed
   * MRI deferred [**12-25**] instability
   Subj: Continues to complain of L hip pain
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-17**] 09:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-18**] 04:12 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-1-17**] 02:00 PM
   Famotidine (Pepcid) - [**2163-1-17**] 11:00 PM
   Hydromorphone (Dilaudid) - [**2163-1-18**] 08:00 AM
   Other medications:
   allopurinol, SQ heparin, tamoxifen, ISS
   Changes to medical and family history:
   PMH, FH, SH unchanged from admission note
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-18**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 89 (84 - 100) bpm
   BP: 109/48(70) {88/37(-17) - 109/48(70)} mmHg
   RR: 9 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 62 kg
   CVP: 15 (12 - 21)mmHg
   SvO2: 83%
   Total In:
                                                                  6,297 mL
                                                                    447 mL
   PO:
                                                                  1,020 mL
   TF:
   IVF:
                                                                  5,277 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                    159 mL
                                                                     30 mL
   Urine:
                                                                    159 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,138 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Thin elderly F
   Harsh systolic m, irreg
   Coarse BS, symmetric chest wall excursion, diminshed at bases
   Soft abd, NT + BS
   Trace  peripheral edema, L hip pain to touch, no erythema, warmth, +
   ROM though limited, unable to cooperate with exam
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse:  present)
   Skin:  Not assessed
   Neurologic: confused and agitated
   Labs / Radiology
   9.9 g/dL
   114 K/uL
   88 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   60 mg/dL
   101 mEq/L
   133 mEq/L
   32.9 %
   28.6 K/uL
        [image002.jpg]
                             [**2163-1-16**]  05:23 PM
                             [**2163-1-16**]  08:30 PM
                             [**2163-1-16**]  10:15 PM
                             [**2163-1-17**]  04:30 AM
                             [**2163-1-17**]  02:04 PM
                             [**2163-1-18**]  05:30 AM
   WBC
   20.6
   24.5
   33.3
   28.6
   Hct
   30
   31.6
   32.9
   31.6
   32.9
   Plt
   83
   121
   114
   114
   Cr
   2.3
   2.4
   2.4
   2.9
   TropT
   0.11
   0.12
   0.11
   TCO2
   25
   Glucose
   147
   89
   74
   88
   Other labs: PT / PTT / INR:15.0/32.1/1.3, CK / CKMB /
   Troponin-T:39/8/0.11, Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2
   %, Mono:4.5 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, LDH:145 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:6.0 mg/dL
   Fluid analysis / Other labs: FENA 1, U NA 30
   Imaging: [**1-17**]: R > L pleural effusion slight increase from [**1-16**].
   Possible bibasilar opacities.
   Microbiology: Urine cx - pseudomonas, no sensi
   Blood cx - NGTD
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): GU likely source, but
   continued elevated WBC and pressor requirement despite broad spectrum
   abx suggest either inadequate coverage of Pseudomonas, or other source
   such as infected hip, c. diff, line infection (portacath), acalculous
   cholecystitis, etc. though she has a benign abd exam and negative
   cultures from her indwelling line.
   - Send repeat cultures
   - Check LFTs
   - CT chest (eval for loculated effusions/empyema as possible source,
   though low suspicion, may have seeded)  and CT hip
   - Redose vanco according to levels
   - Consult ID re: antibiotic coverage/double coverage of pseudomonas
     Recheck abg for Ph/CO2 and lactate
 SHOCK, SEPTIC/CARDIOGENIC: Continues pressor needs, with slow
   escalation. SVO2 is adequate. AS complicates management and assessment
   of volume/cvp
   - Continue fluid boluses and vasopressor with goal to taper off as BP
   allows, carefully monitor oxygen/resp status
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): essentially
   anuric--Likely ATN, though creatinine also increasing slowly.
   - Continue fluid boluses to keep preload elevated, monitor lytes
   - Consult renal
no acute HD needs
 ATRIAL FIBRILLATION (AFIB): Well rate controlled at present
 AORTIC STENOSIS: Continue boluses.
 URINARY TRACT INFECTION (UTI): Pseudomonas, awaiting sensitivities.
   Renal U/S without perinephric abscess or Hydro
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Showing signs of delirium on
   dilaudid, but she has multiple allergies.
   - Will continue dilaudid at low dose.
   - Add lidocaine patch, standing tylenol
   * DELERIUM: Related to age, ICU, meds.
   - Will begin haldol at low dose
   - Attempt to orient, minimize psychotropic meds.
   ICU Care
   Nutrition:
   Comments: Start clear liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2163-01-19 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2163-1-18**] 10:18 AM- A.fib with no acute ST-T wave changes
 INVASIVE VENTILATION - START [**2163-1-18**] 03:00 PM
 URINE & BLOOD CULTUREs - At [**2163-1-18**] 03:39 PM
   - Intubated for worsening acidosis, MS changes. ID consulted
   - Afib with RVR & hypotension, resolved with fluid boluses, loaded
   digoxin
   - Urine Cx pan sensitive pseudomonas
   - oliguric renal failure, Renal consulted
   - CT- no e/o fluid collections, ortho consulted for L hip pain
   Pt Intubated, grimacing to pain, will respond to some commands
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-18**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-19**] 05:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2163-1-18**] 12:30 PM
   Midazolam (Versed) - [**2163-1-18**] 05:20 PM
   Fentanyl - [**2163-1-18**] 08:22 PM
   Other medications: per OMR
   Flowsheet Data as of  [**2163-1-19**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 73 (71 - 151) bpm
   BP: 103/36(58) {70/33(47) - 145/61(95)} mmHg
   RR: 9 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 62 kg
    CVP: 264 (10 - 266)mmHg
   SvO2: 79%
   Total In:
                                                                  4,373 mL
                                                                    745 mL
   PO:
   TF:
   IVF:
                                                                  3,573 mL
                                                                    745 mL
   Blood products:
   Total out:
                                                                    105 mL
                                                                     83 mL
   Urine:
                                                                    105 mL
                                                                     83 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,268 mL
                                                                    662 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.35/35/119/19/-5
   Ve: 7.2 L/min
   PaO2 / FiO2: 397
   Physical Examination
   GEN: Intubated & sedated, not responding
   CV: irreg/irreg with intermittent gr 2 early peaking SEM over LSB, does
   not radiate
   RESP: [**Month (only) 38**] BS over RLL base, moving air over LLL, bronchial BS, no w/r
   Abd: soft, NT/ND/NABS
   Extr: 2+ pitting edema bilaterally, warm
   Labs / Radiology
   CT Chest/abd/pelvis:
   IMPRESSION:
   1.  No evidence of loculated pleural effusion or empyema, though evalua
   tion is
   limited without intravenous contrast.
   2.  New opacification at the right lung base, and posterior segment of
   the
   right upper lobe, concerning for pneumonia, possibly related to aspirat
   ion.
   3.  Unchanged appearance of nonspecific focally distended loops of smal
   l
   bowel.  No specific evidence of bowel obstruction.
   4.  Unchanged appearance of numerous calcified lesions throughout the
   peritoneum and abdomen, limited evaluation without intravenous contrast
   , but
   suspicious for metastatic foci.
   5.  Unchanged appearance of predominantly cystic left adnexal mass.
   56 K/uL
   8.1 g/dL
   106 mg/dL
   2.8 mg/dL
   19 mEq/L
   3.5 mEq/L
   60 mg/dL
   107 mEq/L
   137 mEq/L
   25.1 %
   12.7 K/uL
        [image002.jpg]
                             [**2163-1-18**]  05:30 AM
                             [**2163-1-18**]  12:52 PM
                             [**2163-1-18**]  02:33 PM
                             [**2163-1-18**]  03:20 PM
                             [**2163-1-18**]  04:30 PM
                             [**2163-1-18**]  04:41 PM
                             [**2163-1-18**]  09:15 PM
                             [**2163-1-18**]  09:33 PM
                             [**2163-1-19**]  05:07 AM
                             [**2163-1-19**]  05:21 AM
   WBC
   28.6
   12.8
   10.6
   12.7
   Hct
   32.9
   27.7
   26.2
   25.1
   Plt
   114
   76
   66
   56
   Cr
   2.9
   2.8
   2.8
   2.8
   TCO2
   22
   19
   21
   19
   21
   20
   Glucose
   88
   133
   104
   106
   Other labs: PT / PTT / INR:14.8/42.3/1.3, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, LDH:124 IU/L, Ca++:7.5
   mg/dL, Mg++:1.7 mg/dL, PO4:4.7 mg/dL
   ABG from [**2163-1-19**] 6am: pH 7.35/35/119   Peripheral Smear pending today.
   Urine Cx + pseudomonas pan sensitive
   Blood Cx NGTD
   C. Diff negative
   Assessment and Plan : 86 y/o F with PMHx of severe AS & CHF with EF
   45%, renal cell & ovarian Ca p/w Left hip pain, adm for presumed
   urosepsis on pressors.  Intubated on [**1-18**] for worsening acidosis,
   oliguric renal failure, hemodynamic instability [**12-25**] to Afib with RVR
   and MS changes.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): Source of infection presumed
   to be urosepsis with positive UA growing out pan sensitive
   Pseudomonas.  Pt was covered with Vanc/Zosyn for 48hr but clinically
   deteriorated yesterday possibly due to incomplete volume resuscitation.
   Pt was intubated and weaned for pressors, WBC ct now trending down and
   acidosis resolving on vent.  [**Month/Day (2) 1212**] ID consult, continue ruling out
   other sources of infection.  Will check C. diff X 3 given new diarrhea.
   - continue Vanc/Zosyn for coverage of pseudomonas in urine
   - [**Month/Day (2) **] ortho consult for L  hip pain and concern for seeding of
   hardware.  F/u recs
   - will d/w rads regarding CT chest/abd/pelvis
   - L upper chest wall u/s to rule out abscess near portocath
   - continue to f/u blood & urine cultures
   - bolus prn to maintain Maps>65
 SHOCK, CARDIOGENIC: Pt with severe AS & CHF with EF 45% developed
   Afib with RVR and became hypotensive on [**1-18**]. Pressure responded to IVF
   & pressors.  Pt was then Intubated and pressors weaned. Pt still in/out
   of Afib but HR has been much better controlled on digoxin.
   - check am digoxin level on [**1-20**]
   - avoid CCB/BBs
   - no plan for systemic anticoagulation currently given the [**Month (only) 38**] plt
   count, will re-consider in am if plts stable
   - fluid bolus prn to maintain maps>60
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Pt with oliguric
   renal failure likely [**12-25**] ATN but urine sediment showed sheets of WBCs.
   Creatinine appears to have plateaued and pt having some UOP overnight.
   [**Month/Day (2) 1212**] Renal recs, there is no acute indication for dialysis.  Uremia
   likely contributing to acidosis, currently compensated with vent
   support
   - avoid continuous IVF given poor UOP
   - f/u urine sediment, renally dose meds, check C3/4 & urine eos per
   Renal
   - continue phoslo TID & check lytes [**Hospital1 **]
 AORTIC STENOSIS: AS with valve area of 0.7cm, very preload
   dependant.  Gentle bolus IVF prn to maintain MAP>60
   - continue digoxin, monitor daily CXR & resp status to avoid massive
   volume overload.
 URINARY TRACT INFECTION (UTI): presumed source of infection with UA +
   pseudomonas, pan sensitive
   - continue Vanc/Zosyn for coverage
 LEFT HIP PAIN: Etiology unclear, [**Name2 (NI) **] ortho recs.  Exam did not
   suggest a septic joint on admission, clearly very painful on
   manipulation, will discuss final CT read with rads
   - f/u ortho recs, continue Fentanyl for pain control
   ICU Care
   Nutrition: NPO, on D5 1/2NS for 1L o/n
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  Famotidine
   VAP:  chlorhexidine mouthwash
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Thrombocytopenia:  Plts have trended down with IVF, pt baseline in
   50-70s and currently back to baseline. No e/o coagulopathy, hemolysis
   labs normal, very unlikely that this is [**12-25**] TTP/HUS but will review
   peripheral smear today
   - recheck CBC today, if plt ct continues to trend down, will stop all
   heparin products and consider HITs work up.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2163-1-19**] 12:01 ------

2163-01-19 09:24:00 Physician Attending Progress Note
Chief Complaint: urosepsis, respiratory failure, a fib, acute renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo F with severe AS, h/o renal cell and ovarian ca in ICU for
   urosepsis with Afib/RVR, hypotension, ARF and delirium, intubated for
   worsening acidosis and delirium
   24 Hour Events:
   Afib with RVR and  hypotension yesterday with response  to IVF bolus
   worsening delirium and agitation
   Intubated for worsening acidosis (mixed metabolic and respiratory),
   confusion
   pressors weaned off
   Consult ID re: antibiotic coverage/double coverage of pseudomonas
   History obtained from Medical records, house staff
   Patient unable to provide history: intubated
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-18**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-19**] 05:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2163-1-18**] 12:30 PM
   Midazolam (Versed) - [**2163-1-18**] 05:20 PM
   Fentanyl - [**2163-1-18**] 08:22 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: intubated
   Flowsheet Data as of  [**2163-1-19**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 80 (71 - 151) bpm
   BP: 101/36(57) {70/33(47) - 145/61(95)} mmHg
   RR: 16 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 62 kg
   CVP: 264 (10 - 266)mmHg
   SvO2: 79%
   Total In:
                                                                  4,373 mL
                                                                    904 mL
   PO:
   TF:
   IVF:
                                                                  3,573 mL
                                                                    904 mL
   Blood products:
   Total out:
                                                                    105 mL
                                                                    133 mL
   Urine:
                                                                    105 mL
                                                                    133 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,268 mL
                                                                    771 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.35/35/119/19/-5
   Ve: 7.2 L/min
   PaO2 / FiO2: 397
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing,
   dependent edema
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, , Sedated, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   56 K/uL
   106 mg/dL
   2.8 mg/dL
   19 mEq/L
   3.5 mEq/L
   60 mg/dL
   107 mEq/L
   137 mEq/L
   25.1 %
   12.7 K/uL
         [image002.jpg]
                             [**2163-1-18**]  05:30 AM
                             [**2163-1-18**]  12:52 PM
                             [**2163-1-18**]  02:33 PM
                             [**2163-1-18**]  03:20 PM
                             [**2163-1-18**]  04:30 PM
                             [**2163-1-18**]  04:41 PM
                             [**2163-1-18**]  09:15 PM
                             [**2163-1-18**]  09:33 PM
                             [**2163-1-19**]  05:07 AM
                             [**2163-1-19**]  05:21 AM
   WBC
   28.6
   12.8
   10.6
   12.7
   Hct
   32.9
   27.7
   26.2
   25.1
   Plt
   114
   76
   66
   56
   Cr
   2.9
   2.8
   2.8
   2.8
   TCO2
   22
   19
   21
   19
   21
   20
   Glucose
   88
   133
   104
   106
   Other labs: PT / PTT / INR:14.8/42.3/1.3, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, LDH:124 IU/L, Ca++:7.5
   mg/dL, Mg++:1.7 mg/dL, PO4:4.7 mg/dL
   Imaging: effusions, L > R but with no evidence of loculated effusions,
   RLL airspace disease, ? aspiration
                                  no fluid collection, stranding at L hip
   chest xray pending from this am
   Microbiology: urine cx + psuedomonas, pan sensitive
   blood no growth to date  c dff neg
   new cx's (blood and urine pending)
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)- psuedomonal urospesis also
   likely with asp pna--improving --off pressors with additional fluid
   resuscitation, wbc trending down
      L hip pain remains problem[**Name (NI) 1114**] though no obvious fluid collection on
   imaging, pain with touch, motion on exam--? septic brusitis, ortho
   following and await additonal recs
     continue zosynm f/u cx's
 SHOCK, CARDIOGENIC--cardiogenic in setting of afib with RVR and
   hypotension, now rate controlled
   BP improved, sdtable and off of pressors, cvp difficult to follow given
   severe AS, lactates normalized
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   renal follwoing, atn from sepsis hypotension, cr seems to have peaked,
   phos binder started, all meds renally dosed
   thrombocytopenia--on review of records baseline thromnbocytopenia in
   50-70 range, with intial elevation here likely from hemoconcentration,
   dic labs negative and HUS/TTP unlikely, check smear, component of
   hemoconcetration likely though HIT possibiloty but given that plt is
   now at baseline--follow for further reduction from baseline, continue
   heparin products for now given low suspicion for HIT
 ATRIAL FIBRILLATION (AFIB)--now rate controlled, on dig, limited
   given her severe af, respnsive to IVFs but would avoid calcium channel
   blockers,  given new drop in hct and plts
     Leukocytosis--improving toward normal, check dc diff, continue vacno
   X 24 more hrs given catheter, clinically improving and highest
   suspicion is of urosepsis, though with line in plae would check
   ultrasound of porta cath and await new cx gram stain and result to show
   no GPs
 AORTIC STENOSIS--severem, preload depedent,
 URINARY TRACT INFECTION (UTI)--pseudomonas, pan senstivie--continue
   zosyn
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN) fent and versed for sedartion
    L hip pain--follow up ortho, pain control with fentanyl
 EKG - At [**2163-1-18**] 10:18 AM
 BLOOD CULTURED - At [**2163-1-18**] 12:40 PM
 BLOOD CULTURED - At [**2163-1-18**] 12:50 PM
 EKG - At [**2163-1-18**] 02:10 PM
 INVASIVE VENTILATION - START [**2163-1-18**] 03:00 PM
 URINE CULTURE - At [**2163-1-18**] 03:39 PM
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): GU likely source, but
   continued elevated WBC and pressor requirement despite broad spectrum
   abx suggest either inadequate coverage of Pseudomonas, or other source
   such as infected hip, c. diff, line infection (portacath), acalculous
   cholecystitis, etc. though she has a benign abd exam and negative
   cultures from her indwelling line.
   - Send repeat cultures
   - Check LFTs
   - CT chest (eval for loculated effusions/empyema as possible source,
   though low suspicion, may have seeded)  and CT hip

 SHOCK, SEPTIC/CARDIOGENIC: Continues pressor needs, with slow
   escalation. SVO2 is adequate. AS complicates management and assessment
   of volume/cvp
   - Continue fluid boluses and vasopressor with goal to taper off as BP
   allows, carefully monitor oxygen/resp status
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): essentially
   anuric--Likely ATN, though creatinine also increasing slowly.
   - Continue fluid boluses to keep preload elevated, monitor lytes
   - Consult renal
no acute HD needs
 ATRIAL FIBRILLATION (AFIB): Well rate controlled at present
 AORTIC STENOSIS: Continue boluses.
 URINARY TRACT INFECTION (UTI): Pseudomonas, awaiting sensitivities.
   Renal U/S without perinephric abscess or Hydro
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Showing signs of delirium on
   dilaudid, but she has multiple allergies.
   - Will continue dilaudid at low dose.
   - Add lidocaine patch, standing tylenol
   * DELERIUM: Related to age, ICU, meds.
   - Will begin haldol at low dose
   - Attempt to orient, minimize psychotropic meds.
   ICU Care
   Nutrition:
   Comments: begin TF's via OG tube
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: upate family
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2163-01-20 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2163-1-19**] 11:30 AM
 SPUTUM CULTURE - At [**2163-1-20**] 05:37 AM
 STOOL CULTURE - At [**2163-1-20**] 05:37 AM
   -- Two colonies of GNR, likely both pseudo per ID, no change in abx
   -- Ordered sputum cx from ET given concerning [**Year (4 digits) 1056**] opacity
   -- pressures low, MAP of 50, gave 500cc LR, and appropriate response
   -- ABG w/ increasing alkalosis, decreased frequency on vent
   Pt comfortable on the vent, no grimacing, not responding to commands
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-19**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-20**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-1-20**] 05:39 AM
   Other medications:
   Flowsheet Data as of  [**2163-1-20**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.5
C (95.9
   HR: 70 (65 - 87) bpm
   BP: 106/35(58) {92/34(54) - 119/45(69)} mmHg
   RR: 14 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 62 kg
   Height: 60 Inch
    CVP: 194 (5 - 261)mmHg
   Total In:
                                                                  2,864 mL
                                                                    258 mL
   PO:
   TF:
                                                                     94 mL
   IVF:
                                                                  2,724 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    309 mL
                                                                     40 mL
   Urine:
                                                                    309 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,555 mL
                                                                    218 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.41/31/195/19/-3
   Ve: 7.1 L/min
   PaO2 / FiO2: 650
   Physical Examination
   GEN: Intubated, NAD, not responding to commands
   CV: irreg/irreg gr 2-3 SEM over LSB, no radiation
   RESP: CTAB, [**Month (only) 38**] BS at bases, moving air well
   ABD: BS present, not distended but more tense than baseline, no
   grimacing to palp
   EXTR: 2+ pitting edema bilaterally
   Labs / Radiology
   Left Chest U/S- no evidence of abscess
   Chest Portable [**1-19**]:
   FINDINGS:  In comparison with the study of [**1-18**], there is little overal
   l
   change.  Extensive bilateral pleural effusions persist, much more promi
   nent on
   the right.  Various tubes remain in place.  Specifically, the endotrach
   eal
   tube is about 4.6 cm above the carina.
   56 K/uL
   8.6 g/dL
   99 mg/dL
   2.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   62 mg/dL
   109 mEq/L
   138 mEq/L
   26.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2163-1-18**]  04:30 PM
                             [**2163-1-18**]  04:41 PM
                             [**2163-1-18**]  09:15 PM
                             [**2163-1-18**]  09:33 PM
                             [**2163-1-19**]  05:07 AM
                             [**2163-1-19**]  05:21 AM
                             [**2163-1-19**]  04:00 PM
                             [**2163-1-19**]  06:59 PM
                             [**2163-1-20**]  05:17 AM
                             [**2163-1-20**]  05:39 AM
   WBC
   12.8
   10.6
   12.7
   10.9
   Hct
   27.7
   26.2
   25.1
   26.7
   Plt
   76
   66
   56
   56
   Cr
   2.8
   2.8
   2.8
   2.9
   2.9
   TCO2
   19
   21
   20
   21
   20
   Glucose
   133
   104
   106
   120
   99
   Other labs: PT / PTT / INR:13.4/35.9/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, LDH:124 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Sputum pending, C. Diff neg x 2, third C. Diff pending
   Blood Cx NGTD
   Urine Cx 2 diff GNR species
   Urine Cx + pseudomonas pan sensitive
   ABG this am on [**6-28**]  pH 7.34/44/116
   Assessment and Plan: 86 y/o F with PMHx of severe AS & CHF with EF 45%,
   renal cell & ovarian Ca p/w Left hip pain, adm for presumed urosepsis
   on pressors.  Intubated on [**1-18**] for worsening acidosis, oliguric renal
   failure, hemodynamic instability [**12-25**] to Afib with RVR and MS changes.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): Source of infection presumed
   to be urosepsis with positive UA growing out pan sensitive
   Pseudomonas.  Pt clinically deteriorated on [**1-18**] with worsening
   acidosis/MS changes and was intubated.  Pressors were weaned
   immediately and pt has been maintaining MAPs with occais 500cc
   boluses.  WBC ct trended down and acidosis resolved on minimal vent
   settings.  L chest U/S was neg for abscess, CT was unrevealing for addl
   infectious sources.
   - [**Month/Year (2) **] ID consult, 2^nd GNR in Ucx likely pseudomonas
   - continue Zosyn for coverage of pseudomonas, d/c Vancomycin today as
   there is no e/o line infection.
   - ortho consult for L  hip pain, unconcerned for L hip as source of
   infection
   - continue to f/u blood & urine cultures
   - bolus prn to maintain Maps>65
 SHOCK, CARDIOGENIC: resolved, pt with severe AS & CHF with EF 45%
   developed Afib with RVR and became hypotensive on [**1-18**]. Pressure
   responded to IVF & pressors.  Pt was then Intubated and pressors
   weaned. Pt still in/out of Afib but HR has been much better controlled
   on digoxin.
   - dig level 1.4 this am, will continue Digoxing 0.125mg every other day
   - avoid CCB/BBs
   - no plan for systemic anticoagulation currently, daily risk of CVA
   low, will reconsider in am
   - fluid bolus prn to maintain maps>60
RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR shows bilateral effusions & pulm edema.  CT showed
   possible airspace disease in [**Last Name (LF) 1056**], [**First Name3 (LF) **] have been [**12-25**] aspiration
   peri-intubation.  Afebrile, WBC ct trending down, this is unlikely a
   new PNA
   - wean vent settings to [**3-28**] today, repeat ABG in pm
   - f/u RSBI in am, possible extubation in 24-48hrs
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Pt with oliguric
   renal failure likely [**12-25**] hypoperfusion vs ATN in setting of shock.
   Urine sediment filled with WBCs, no e/o casts.  Creatinine appears to
   have plateaued and pt having increased UOP overnight.  [**Month/Day (2) 1212**] Renal
   recs, there is no acute indication for dialysis. Acidosis resolved on
   vent, unclear if metabolic acidosis leading to intubation was all [**12-25**]
   uremia.  [**Month/Day (2) 1212**] renal recs- C3 low, C4 normal, urine eos negative.
   - avoid continuous IVF given poor UOP
   - renally dose all meds
   - continue phoslo TID & check lytes [**Hospital1 **]
 AORTIC STENOSIS: AS with valve area of 0.7cm, very preload
   dependant.  Gentle bolus IVF prn to maintain MAP>60
   - continue digoxin, monitor daily CXR & resp status, avoid volume
   overload preventing successful extubation
 URINARY TRACT INFECTION (UTI): presumed source of infection with UA +
   pseudomonas, pan sensitive
   -          continue Vanc/Zosyn for coverage
 THROMBOCYTOPENIA: Stable at pts baseline. Monitoring daily.
 LEFT HIP PAIN: Etiology unclear, [**Name2 (NI) **] ortho recs.  Exam did not
   suggest a septic joint on admission, clearly very painful on
   manipulation.  CT neg for joint effusion.  Consider f/u MRI.
   - f/u ortho recs, continue Fentanyl for pain control
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-1-20**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: Heparin 5000u sc TID
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2163-01-20 11:04:00 Physician Attending Progress Note
Chief Complaint: urosepsis and hip pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo F with severe AS, h/o renal cell and ovarian ca in ICU with
   urosepsis c/b  Afib/RVR, hypotension, ARF and delirium, intubated for
   worsening acidosis and airway protection--improving
   24 Hour Events:
 ULTRASOUND - At [**2163-1-19**] 11:30 AM of porta cath
 SPUTUM CULTURE - At [**2163-1-20**] 05:37 AM
 STOOL CULTURE - At [**2163-1-20**] 05:37 AM
   now with 2 colonies GNR in urine
llikely  2 species pseudomonas
   bolused with LR for MAP decreased to 50's with good response,
   slightly alkalotic ph on ACV
set RR decreased
   History obtained from house staff
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-19**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-20**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-1-20**] 05:39 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-20**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 71 (65 - 80) bpm
   BP: 112/41(65) {92/34(54) - 130/49(78)} mmHg
   RR: 17 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 62 kg
   Height: 60 Inch
   CVP: 6 (5 - 232)mmHg
   Total In:
                                                                  2,864 mL
                                                                    430 mL
   PO:
   TF:
                                                                    193 mL
   IVF:
                                                                  2,724 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                    309 mL
                                                                     60 mL
   Urine:
                                                                    309 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,555 mL
                                                                    370 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 271 (271 - 271) mL
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 13 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.34/44/116/19/-2
   Ve: 6.1 L/min
   PaO2 / FiO2: 387
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   upper BS, Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   8.6 g/dL
   56 K/uL
   99 mg/dL
   2.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   62 mg/dL
   109 mEq/L
   138 mEq/L
   26.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2163-1-18**]  04:41 PM
                             [**2163-1-18**]  09:15 PM
                             [**2163-1-18**]  09:33 PM
                             [**2163-1-19**]  05:07 AM
                             [**2163-1-19**]  05:21 AM
                             [**2163-1-19**]  04:00 PM
                             [**2163-1-19**]  06:59 PM
                             [**2163-1-20**]  05:17 AM
                             [**2163-1-20**]  05:39 AM
                             [**2163-1-20**]  10:07 AM
   WBC
   10.6
   12.7
   10.9
   Hct
   26.2
   25.1
   26.7
   Plt
   66
   56
   56
   Cr
   2.8
   2.8
   2.9
   2.9
   TCO2
   19
   21
   20
   21
   20
   25
   Glucose
   104
   106
   120
   99
   Other labs: PT / PTT / INR:13.4/35.9/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, LDH:124 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: cxr:  ET high (decrease by 2 cm)
   R basilar opacity (some chronic changes from pleurodesis),  effusion
   b/l layering R > L, R IJ line in good position, OGT ok
   Microbiology: blood and sputum ngtd, rinu with pan [**Last Name (un) **]
   pseudomonas--second species pending
   C diff pending ( 2 X neg)
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca in ICU with
   urosepsis c/b  Afib/RVR, hypotension, ARF and delirium, intubated for
   worsening acidosis and airway protection--improving
        Respiratory failure
doing well on vent with improved acidosis
   but is total body volume up and will need to diurese prior to
   extubation, given some improved urine output today will likely begin
   auto-diuresis phase of ATN, will follow u/o and consider gentle
   diuresis later today with goal even to negative 500 today prior to
   extubation
                  continue PS and lighten sedation with SBT in am
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-most likely source is
   pseudomonal urosepsis now improving
        WBC trending down, hemodynamically stable, porta cath without
   fluid by u/s and low suspicion of seeding given GNRs rather than GPCs
          L hip pain remains problem[**Name (NI) 1114**] for possible met/lytic lesion or
   fx, no evidence of fluid for tap to suggest septic bursitis/source for
   infection
         Continue zosyn X 14 day course and  f/u cx results
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension, now rate controlled  and stable hemodynamically off of
   pressors
         preload dependent with severe AS
         cvp difficult to follow given severe AS
         lactates normalized
         follow MAPs and u/o
 ATRIAL FIBRILLATION (AFIB)--now rate controlled, on dig, responsive
   to IVFs but would avoid calcium channel blockers in setting of RVR
   given severe AS,
        Daily stoke risk low and would not anticoagulate at this time
   given low plts at baseline, though would reassess as clinical picture
   improves as may remain in chronic a- fib,
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
        atn from sepsis and hypotension
        cr appears to have peaked and now with increasing u/o--will likely
   start to auto-diurese
        continue phos binder
        all meds renally dosed
       urine eos neg, complement pending and renal service recs
   appreciated
   >  Leukocytosis
normalizing
             check C diff cx
             d/c vanco as no GPs from cx data and given clinical
   improvement
             continue  zosyn for pseudomonas
             clinically improving and highest  suspicion remains of
   urosepsis
   >  thrombocytopenia--on review of records, baseline thrombocytopenia in
   50-70 range, with initial elevation here likely from hemoconcentration
   and now likely at baseline, dic labs negative and HUS/TTP unlikely,
   check smear
   follow for further reduction from baseline, continue heparin products
   for now given low suspicion for HIT
   >  anemia-  h/h now stable,  likely component of hemodilution,
   transfuse for < 21 or active bleed or if hypotension
 AORTIC STENOSIS--severe, preload dependent as above
 URINARY TRACT INFECTION (UTI)--pseudomonas, pan sensitive--continue
   zosyn as above X 14 day course
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)--f/u on additional oncological hx
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN) fent and versed  while on
   vent
   > Hip pain--dose not seem source of infection but given her significant
   pain concern for some lytic lesion/fx or micro fx or bony mets-- bone
   scan to assess
   >  Diarrhea--wbc trending down, c diff neg X 2 with third pending
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-1-20**] 12:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT:  sq heparin
   Stress ulcer:  TFs
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-01-21 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hypotensive to 70s, not resposive to 500cc bolus, re-started levophed
   with good response
   - ABGs progressively more acidemic, switched back to AC following
   midnight ABG with good response
   - d/c'd vanc
   Pt intubated/sedated, not responding to commands.  Still on Levophed
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-19**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-21**] 04:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-1-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 66 (66 - 99) bpm
   BP: 133/43(73) {82/34(50) - 133/49(78)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 62 kg
   Height: 60 Inch
    CVP: 7 (-1 - 10)mmHg
   Total In:
                                                                  1,656 mL
                                                                    434 mL
   PO:
   TF:
                                                                    653 mL
                                                                    259 mL
   IVF:
                                                                    734 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    152 mL
   Urine:
                                                                    570 mL
                                                                    152 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,036 mL
                                                                    282 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 351 (271 - 387) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.35/36/150/19/-4
   Ve: 7 L/min
   PaO2 / FiO2: 500
   Physical Examination
   GEN: NAD, intubated, comfortable on vent
   CV: RRR  gr 3 SEM over LSB, does not radiate
   RESP: CTAB, [**Month (only) 38**] BS over bases
   ABD: ND, mildly tense, no grimacing to palp,NABS
   EXTR: 2+pitting edema bilaterally
   Labs / Radiology
   72 K/uL
   9.3 g/dL
   161 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.0 mEq/L
   65 mg/dL
   106 mEq/L
   135 mEq/L
   28.9 %
   14.7 K/uL
        [image002.jpg]
                             [**2163-1-19**]  06:59 PM
                             [**2163-1-20**]  05:17 AM
                             [**2163-1-20**]  05:39 AM
                             [**2163-1-20**]  10:07 AM
                             [**2163-1-20**]  05:21 PM
                             [**2163-1-20**]  05:48 PM
                             [**2163-1-20**]  10:31 PM
                             [**2163-1-21**]  12:18 AM
                             [**2163-1-21**]  04:56 AM
                             [**2163-1-21**]  05:04 AM
   WBC
   10.9
   14.7
   Hct
   26.7
   28.9
   Plt
   56
   72
   Cr
   2.9
   3.0
   3.1
   TCO2
   21
   20
   25
   21
   22
   21
   21
   Glucose
   99
   127
   161
   Other labs: PT / PTT / INR:12.9/33.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, LDH:124 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan: 86 y/o F with PMHx of severe AS & CHF p/w Left hip
   pain, adm to [**Hospital Unit Name 44**] for presumed urosepsis,   intubated on [**1-18**] for
   worsening acidosis and MS changes.
   #SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): presumed to be urosepsis with
   positive UA growing out pan sensitive Pseudomonas, now day 4 of Zosyn.
   Pt is s/p Intubation of [**1-18**] for worsening acidosis/MS changes, pt
   developped a worsening mixed acidosis & hypotension [**1-20**] with minimal
   vent support, switch to AC overnight & pH improved.  Hypotension did
   not resolve with 500cc bolus, required Levophed for apporx 5 hrs.
   Etiology of acidosis/hypotension unclear, possibly due to uremia,  NS
   resussitation and preload dependance given severe AS. Ruling out
   ongoing sepsis, further infectious work up neg to date, L chest U/S neg
   for abscess, CT unrevealing.  Bone scan pending today.
   - [**Month/Year (2) **] ID consult, continue Zosyn for coverage of pseudomonas in
   urine, Vanc was d/c
d [**1-20**]
   - ortho consult for L  hip pain, bone scan pending today for ?mets
   - Blood Cx NGTD, Urine culture + 2 diff pseudomonas, both pan
   sensitive.  Sputum + yeast
   - gentle bolus of 250 LR prn to maintain Maps>65
   - will repeat cultures if any recurrence of hypotension
   #SHOCK, CARDIOGENIC: Pt with severe AS & CHF with EF 45% developed Afib
   with RVR and became hypotensive on [**1-18**]. Pressure responded to IVF &
   pressors.  Pt was intubated and pressors weaned. Pt has been in/out of
   Afib but HR better controlled on digoxin.  BP dropped overnight, did
   not respond to IV bolus, required pressors approx 5hrs.  This was
   likely due to severe AS and preload dependance but concern for ongoing
   sepsis.  Extravascular volume overload and complicated fluid balance,
   goal of net even i/os.
   - continue Digoxing 0.125mg every other day, avoid CCB/BBs
   - no plan for systemic anticoagulation currently, daily risk of CVA low
   - fluid bolus 250cc LR prn to maintain maps>60
   # RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR shows bilateral effusions & pulm edema.  CT showed
   possible airspace disease in [**Last Name (LF) 1056**], [**First Name3 (LF) **] have been [**12-25**] aspiration
   peri-intubation.  WBC ct increased at 14 today.  It is unlikely that
   this due to a new PNA, but will reculture and broaden Abx if pt
   clinically deteriorates.   Pulm edema and extravascular volume overload
   will likely be a barrier to extubation.  Goal to run i/os even, waiting
   on spontaneous diuresis.
   - repeat ABG in pm, consider weaning to [**8-28**] this evening
   - f/u RSBI in am, possible extubation over weekend
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Pt with oliguric
   renal failure likely [**12-25**] hypoperfusion vs ATN in setting of shock.
   Urine sediment filled with WBCs, no e/o casts.  Creatinine increased
   slightly overnight, likely [**12-25**] contraction,  having increased UOP.
   [**Month/Day (2) 1212**] Renal recs, there is no acute indication for dialysis. Acidosis
   improved on vent with AC, unclear if metabolic acidosis leading to
   intubation was uremia vs NS resussitation.  [**Month/Day (2) 1212**] renal recs, waiting
   on natruriesis
   - monitor i/os, goal net even
   - renally dose all meds
   - continue phoslo TID
   # AORTIC STENOSIS: AS with valve area of 0.7cm, very preload dependant
   & delicate fluid balance.  Gentle bolus with 250cc LR prn to maintain
   MAP>60
   - continue digoxin, monitor daily CXR & resp status, avoid volume
   overload preventing successful extubation
   # URINARY TRACT INFECTION (UTI): presumed source of infection with UA +
   pseudomonas, pan sensitive
   - continue Zosyn renally dosed for coverage
   # LEFT HIP PAIN: Etiology unclear, [**Name2 (NI) **] ortho recs.  Exam did not
   suggest a septic joint on admission, clearly very painful on
   manipulation.  CT neg for joint effusion, bone scan pending today
   - f/u ortho recs, continue Fentanyl for pain control
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2163-1-20**] 07:33 PM 35 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT:  Heparin sc
   Stress ulcer: H2 blocker
   VAP:  chlorhexidine
   Code status: DNR (do not resuscitate)
   Disposition:

2163-01-21 12:15:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2163-01-21 13:00:00 Physician Attending Progress Note
Chief Complaint: urosepsis, erspiratory failure, afib with rvr
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   hypotensive overnight without response to 500 cc IVF bolus and levophed
   restarted then off this am,
    increasingly acidemic on PS so replaced to ACV
   History obtained from house staff
   Patient unable to provide history: Sedated
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-19**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-21**] 11:51 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-1-21**] 06:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-21**] 01:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 80 (66 - 99) bpm
   BP: 149/58(83) {82/34(50) - 149/58(83)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 62 kg
   Height: 60 Inch
   CVP: 8 (-1 - 10)mmHg
   Total In:
                                                                  1,501 mL
                                                                    445 mL
   PO:
   TF:
                                                                    497 mL
                                                                     67 mL
   IVF:
                                                                    734 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    240 mL
   Urine:
                                                                    570 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    881 mL
                                                                    205 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 351 (305 - 387) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.35/36/150/19/-4
   Ve: 8.4 L/min
   PaO2 / FiO2: 500
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), a-fib
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l  bases, No(t) Wheezes : , Diminished: )
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, Sedated, Tone:
   Normal
   Labs / Radiology
   9.3 g/dL
   72 K/uL
   161 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.0 mEq/L
   65 mg/dL
   106 mEq/L
   135 mEq/L
   28.9 %
   14.7 K/uL
        [image002.jpg]
                             [**2163-1-19**]  06:59 PM
                             [**2163-1-20**]  05:17 AM
                             [**2163-1-20**]  05:39 AM
                             [**2163-1-20**]  10:07 AM
                             [**2163-1-20**]  05:21 PM
                             [**2163-1-20**]  05:48 PM
                             [**2163-1-20**]  10:31 PM
                             [**2163-1-21**]  12:18 AM
                             [**2163-1-21**]  04:56 AM
                             [**2163-1-21**]  05:04 AM
   WBC
   10.9
   14.7
   Hct
   26.7
   28.9
   Plt
   56
   72
   Cr
   2.9
   3.0
   3.1
   TCO2
   21
   20
   25
   21
   22
   21
   21
   Glucose
   99
   127
   161
   Other labs: PT / PTT / INR:12.9/33.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, LDH:124 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: et ok, underpentrated
   Microbiology: urine cx --2 pan sensitive pseudomonas
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, CARDIOGENIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 AORTIC STENOSIS
 URINARY TRACT INFECTION (UTI)
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   abg and change back to PS after road trip....feel that fatigue is
   likely from volume, needs to mobilize fluid
   making increased urine output,
   no urine eos and compelemnts low,
   zosyn for uti
   bone scan today for hip pain
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hyptotesnion,  in ICU with pseudomal urosepsis c/b
   Afib/RVR, hypotension, ARF and respiratory failure
    >  Respiratory failure
doing well on vent with improved acidosis but
   is total body volume up and will need to diurese prior to extubation,
   given some improved urine output today will likely begin auto-diuresis
   phase of ATN, will follow u/o and consider gentle diuresis later today
   with goal even to negative 500 today prior to extubation
                  continue PS and lighten sedation with SBT in am
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-pseudomonal urosepsis,
   improving
        WBC trending down, hemodynamically stable, porta cath without
   fluid by u/s and low suspicion of seeding given GNRs rather than GPCs
         L hip pain remains problem[**Name (NI) 1114**] for possible met/lytic lesion or
   fx, no evidence of fluid for tap to suggest septic bursitis/source for
   infection
         Continue zosyn X 14 day course and  f/u cx results
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension, now rate controlled  and stable hemodynamically off of
   pressors
       suspect that the dopr in BP secondary to preload dependance
        With severe AS rather than  persistent spesis, now starting to
   autodiurese, would match i/o's as is very preload dependant also in
   setting of positive pressure, would allow autodiuresis and consider
   diruestics later, for goal even to negative fluid balnace
         cvp difficult to follow given severe AS
         lactates normalized
         follow MAPs and u/o
 ATRIAL FIBRILLATION (AFIB)- reverted back to NSR with ectopy and
   paroxysmal---now rate controlled, on dig, responsive to IVFs but would
   avoid calcium channel blockers in setting of RVR given severe AS, Daily
   stoke risk low and would not anticoagulate at this time given low plts
   at baseline, though would reassess as clinical picture improves as may
   remain in chronic a- fib,
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
        atn from sepsis and hypotension
        cr appears to have peaked and now with increasing u/o--will likely
   start to auto-diurese
        continue phos binder
        all meds renally dosed
       urine eos neg, complement pending and renal service recs
   appreciated
   >  Leukocytosis
normalizing
             check C diff cx
             d/c vanco as no GPs from cx data and given clinical
   improvement
             continue  zosyn for pseudomonas
             clinically improving and highest  suspicion remains of
   urosepsis
   >  thrombocytopenia--on review of records, baseline thrombocytopenia in
   50-70 range, with initial elevation here likely from hemoconcentration
   and now likely at baseline, dic labs negative and HUS/TTP unlikely,
   check smear
   follow for further reduction from baseline, continue heparin products
   for now given low suspicion for HIT
   >  anemia-  h/h now stable,  likely component of hemodilution,
   transfuse for < 21 or active bleed or if hypotension
 AORTIC STENOSIS--severe, preload dependent as above
 URINARY TRACT INFECTION (UTI)--pseudomonas, pan sensitive--continue
   zosyn as above X 14 day course
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)--f/u on additional oncological hx
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN) fent and versed  while on
   vent
   > Hip pain--dose not seem source of infection but given her significant
   pain concern for some lytic lesion/fx or micro fx or bony mets-- bone
   scan to assess
   >  Diarrhea--wbc trending down, c diff neg X 2 with third pending
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-1-21**] 09:15 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-01-22 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BP stable off pressors, no bolus requirement
   - UOP adequate, still net positive
   - tolerated [**8-28**] for 5 hrs, ABGs improved
   - admin Lasix 40mg IV this am
   Pt intubated, sedated, opening eyes but only intermittently responding
   to commands.
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-19**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-22**] 04:20 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-22**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 74 (67 - 92) bpm
   BP: 132/39(69) {96/32(53) - 154/58(90)} mmHg
   RR: 16 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 62 kg
   Height: 60 Inch
    CVP: 9 (2 - 12)mmHg
   Total In:
                                                                  1,068 mL
                                                                    306 mL
   PO:
   TF:
                                                                    470 mL
                                                                    220 mL
   IVF:
                                                                    258 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                     45 mL
   Urine:
                                                                    510 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    558 mL
                                                                    261 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 363 (363 - 405) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.37/37/136/22/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 453
   Physical Examination
   GEN: NAD, intubated, opening eyes to commands
   HEENT: swollen, edematous face
   CV: irreg/irreg gr 3 SEM over LSB
   RESP: crackles bilaterally at bases, no w/r
   ABD: soft,NT/ND/NABS
   Extr: 2+ pitting edema bilaterally
   Labs / Radiology
   BONE
   SCAN: No scintigraphic evidence of hip metastasis or pathologic fractur
   e.
   [**2163-1-21**] Portable CXR:
   FINDINGS:  In comparison with study of [**1-20**], there is no change in the
   appearance of the endotracheal and nasogastric tubes and central venous
   catheter and Port-A-Cath.  No change in the appearance of the
   cardiomediastinal silhouette.  Large right and smaller left pleural eff
   usions
   persist.  No evidence of acute focal pneumonia.
   IMPRESSION:  Little change.
   51 K/uL
   8.7 g/dL
   132 mg/dL
   2.9 mg/dL
   22 mEq/L
   4.2 mEq/L
   65 mg/dL
   111 mEq/L
   140 mEq/L
   27.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2163-1-20**]  05:21 PM
                             [**2163-1-20**]  05:48 PM
                             [**2163-1-20**]  10:31 PM
                             [**2163-1-21**]  12:18 AM
                             [**2163-1-21**]  04:56 AM
                             [**2163-1-21**]  05:04 AM
                             [**2163-1-21**]  03:43 PM
                             [**2163-1-21**]  06:34 PM
                             [**2163-1-22**]  05:00 AM
                             [**2163-1-22**]  05:14 AM
   WBC
   14.7
   7.8
   Hct
   28.9
   27.4
   Plt
   72
   51
   Cr
   3.0
   3.1
   2.9
   TCO2
   21
   22
   21
   21
   22
   24
   22
   Glucose
   127
   161
   132
   Other labs: PT / PTT / INR:12.9/33.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   C Diff negative x 4, Blood Cx NGTD
   Urine Culture + Pseudomonas pan sensitive
   Sputum Culture + yeast
   Assessment and Plan
   86 y/o F with PMHx of severe AS & CHF p/w Left hip pain, adm to [**Hospital Unit Name 44**]
   for presumed urosepsis,  intubated on [**1-18**] for worsening acidosis and
   MS changes.
   .
   #SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): etiology presumed urosepsis
   with positive UA growing out pan sensitive Pseudomonas, now day 6 of
   Zosyn.  Pt is s/p Intubation on [**1-18**] for worsening acidosis/MS
   changes.  Pt had transient hypotension with worsening acidosis on ABGs
   [**1-20**] intermittently requiring pressors. No recurrence of hypotension
   since.  Etiology of acidosis/hypotension unclear, possibly due to
   uremia,  NS resussitation and preload dependance. Further infectious
   work up neg to date, L chest U/S neg for abscess, CT unrevealing.  Bone
   scan negative.
   - [**Month/Year (2) **] ID consult, continue Zosyn day [**5-3**]
   - bone scan- no lytic lesions or metastatic dz
   - Blood Cx NGTD, Urine culture + 2 diff pseudomonas, both pan
   sensitive.  Sputum + yeast
   - gentle bolus of 250 LR prn to maintain Maps>65
   - will repeat cultures if any recurrence of hypotension
   .
   #SHOCK, CARDIOGENIC: Pt with severe AS & CHF with EF 45% developed Afib
   with RVR and became hypotensive on [**1-18**]. Pressure responded to IVF &
   pressors.  Pt was intubated and pressors weaned. Pt has been in/out of
   Afib but HR better controlled on digoxin.  Transient hypotension on
   [**1-20**], did not respond to bolus, required pressors approx 5hrs.  This
   was likely due to severe AS and preload dependance but concern for
   ongoing sepsis.  Extravascular volume overload and complicated fluid
   balance, goal of net even to negative i/os.
   - continue Digoxing 0.125mg every other day, avoid CCB/BBs
   - no plan for systemic anticoagulation currently, daily risk of CVA
   very low
   - fluid bolus 250cc LR prn to maintain maps>60
   .
   # RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR shows bilateral effusions & pulm edema.  CT showed
   possible airspace disease in [**Last Name (LF) 1056**], [**First Name3 (LF) **] have been [**12-25**] aspiration
   peri-intubation.  WBC ct down, it is unlikely that this due to a new
   PNA, but will reculture and broaden Abx if pt clinically deteriorates.
   Pulm edema and extravascular volume overload may be a barrier to
   extubation.  Goal to run i/os even to neg.
   - tolerated [**8-28**] well for 5hrs o/n.  ABGs show normal acid base status,
   oxygenating & ventilating well.
   - f/u RSBI in am, possible extubation over weekend
   .
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Pt with oliguric
   renal failure likely [**12-25**] hypoperfusion vs ATN in setting of shock.
   Urine sediment filled with WBCs, no e/o casts.  Creatinine improved &
   having increased UOP. Acidosis improved on vent with AC, unclear if
   metabolic acidosis leading to intubation was uremia vs NS
   resussitation.  [**Month/Day (2) 1212**] renal recs, admin Lasix 40mg IV this am to
   attempt diuresis
   - monitor i/os, goal net negative 500cc
   - renally dose all meds
   - continue phoslo TID
   .
   # AORTIC STENOSIS: AS with valve area of 0.7cm, very preload dependant
   & delicate fluid balance.  Gentle bolus with 250cc LR prn to maintain
   MAP>60
   - continue digoxin, monitor daily CXR & resp status, avoid volume
   overload preventing successful extubation
   .
   # URINARY TRACT INFECTION (UTI): presumed source of infection with UA +
   pseudomonas, pan sensitive
   - continue Zosyn day [**5-3**] renally dosed
   # LEFT HIP PAIN: Etiology unclear, [**Name2 (NI) **] ortho recs.  Exam did not
   suggest a septic joint on admission, clearly very painful on
   manipulation.  CT neg for joint effusion, bone scan neg for pathologic
   fracture/metastatic lesion
   - f/u ortho recs, continue Fentanyl for pain control
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-1-22**] 12:51 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT:  Heparin sc TID
   Stress ulcer:  H2 blocker
   VAP: Chlorhexidine
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2163-01-22 11:59:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 86 yo F with severe AS, h/o renal cell and ovarian ca who
   presented with L hip pain and hypotension, in ICU with pseudomonal
   urosepsis c/b  Afib/RVR, ARF (ATN)  and respiratory failure
   24 Hour Events:
   tolerated PS X 5 hrs and rested on ACV overnight, now on PS 12/5
   lasix 40 IV X 1 given with increased u/o
   bone scan negative for hip lesion
   History obtained from housestaff
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-19**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-22**] 04:20 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2163-1-22**] 06:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-22**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (67 - 92) bpm
   BP: 106/35(58) {96/32(53) - 154/58(90)} mmHg
   RR: 19 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 62 kg
   Height: 60 Inch
   CVP: 10 (2 - 12)mmHg
   Total In:
                                                                  1,068 mL
                                                                    599 mL
   PO:
   TF:
                                                                    470 mL
                                                                    411 mL
   IVF:
                                                                    258 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                    452 mL
   Urine:
                                                                    510 mL
                                                                    452 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    558 mL
                                                                    147 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 410 (363 - 410) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 21
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.37/37/136/22/-3
   Ve: 6.4 L/min
   PaO2 / FiO2: 453
   Physical Examination
   General Appearance: Well nourished, No acute distress, edematous
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   51 K/uL
   132 mg/dL
   2.9 mg/dL
   22 mEq/L
   4.2 mEq/L
   65 mg/dL
   111 mEq/L
   140 mEq/L
   27.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2163-1-20**]  05:21 PM
                             [**2163-1-20**]  05:48 PM
                             [**2163-1-20**]  10:31 PM
                             [**2163-1-21**]  12:18 AM
                             [**2163-1-21**]  04:56 AM
                             [**2163-1-21**]  05:04 AM
                             [**2163-1-21**]  03:43 PM
                             [**2163-1-21**]  06:34 PM
                             [**2163-1-22**]  05:00 AM
                             [**2163-1-22**]  05:14 AM
   WBC
   14.7
   7.8
   Hct
   28.9
   27.4
   Plt
   72
   51
   Cr
   3.0
   3.1
   2.9
   TCO2
   21
   22
   21
   21
   22
   24
   22
   Glucose
   127
   161
   132
   Other labs: PT / PTT / INR:13.0/36.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Imaging: R effusion (+ chronic rll changes psot pleurodesis) ET /line
   ok, no change
   bone scan negative for hip lesion
   Microbiology: blood ngtd
   sputum + yeast
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hypotension, in ICU with pseudomonal urosepsis c/b
   Afib/RVR, ARF (ATN)  and respiratory failure
   Overall improving, volume status and underlying severe AS complicating
   wean
   Active issues remains:
   >Respiratory failure
doing well on vent with improved acidosis but is
   total body volume up and will need to diurese prior to extubation
           continue PS wean and follow abg, w/ hope to extubate in next
   1-2 days after additional diuresis
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) atn from sepsis and
   hypotension
          Entering auto-diureses phase of atn and expect to start seeing
   improvement in creatinine, start thiazide and lasix (goal 500-1 L as BP
   tolerates)
         Continue phos binder and renal dosing of emds
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-pseudomonal urosepsis,
   improving
           Complete  zosyn X 14 day course
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension and severe AS, resolved
       needs to mobilize fluids prior to extubation though recently
   hypotensive as has preload dependence from AS  also in setting of
   positive pressure
        Starting to autodiurese and will give lasix and thiazide today
 ATRIAL FIBRILLATION (AFIB)-
      Continue dig
      Daily stoke risk low and would not anticoagulate at this time given
   low plts at baseline, though would reassess as clinical picture
   improves as may remain in paroxysmal afib
   >  thrombocytopenia--baseline thrombocytopenia in 50-70 range, with
   initial elevation here likely from hemoconcentration and now likely at
   baseline, dic labs negative and HUS/TTP unlikely,  follow for further
   reduction from baseline, continue heparin products for now given low
   suspicion for HIT
   >  anemia-  h/h now stable, transfuse for < 21 or active bleed or if
   hypotension
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)--f/u on additional oncological hx
   > Hip pain--dose not seem source of infection, given pain have further
   evaluated with bone scan which was  negative
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-1-22**] 12:51 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-01-23 07:20:00 Physician Resident Progress Note
Chief Complaint: Urosepsis
   24 Hour Events:
   -- given diuril + lasix w/ good response, repeated at 4am
   -- ABG unchanged
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-22**] 08:02 PM
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2163-1-22**] 12:13 PM
   Furosemide (Lasix) - [**2163-1-23**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-23**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 74 (68 - 114) bpm
   BP: 147/41(72) {96/32(53) - 174/62(101)} mmHg
   RR: 18 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 62 kg
   Height: 60 Inch
    CVP: 15 (4 - 15)mmHg
   Total In:
                                                                  1,203 mL
                                                                    308 mL
   PO:
   TF:
                                                                    841 mL
                                                                    293 mL
   IVF:
                                                                    252 mL
                                                                     14 mL
   Blood products:
   Total out:
                                                                  1,532 mL
                                                                    900 mL
   Urine:
                                                                  1,532 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -329 mL
                                                                   -592 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (363 - 428) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 53
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.37/45/129/23/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 430
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   8.6 g/dL
   144 mg/dL
   3.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   69 mg/dL
   110 mEq/L
   138 mEq/L
   26.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2163-1-21**]  12:18 AM
                             [**2163-1-21**]  04:56 AM
                             [**2163-1-21**]  05:04 AM
                             [**2163-1-21**]  03:43 PM
                             [**2163-1-21**]  06:34 PM
                             [**2163-1-22**]  05:00 AM
                             [**2163-1-22**]  05:14 AM
                             [**2163-1-22**]  07:41 PM
                             [**2163-1-23**]  04:35 AM
                             [**2163-1-23**]  04:47 AM
   WBC
   14.7
   7.8
   7.4
   Hct
   28.9
   27.4
   26.6
   Plt
   72
   51
   47
   Cr
   3.1
   2.9
   3.1
   TCO2
   21
   21
   22
   24
   22
   25
   27
   Glucose
   161
   132
   144
   Other labs: PT / PTT / INR:13.0/36.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   86 y/o F with PMHx of severe AS & CHF p/w Left hip pain, adm to [**Hospital Unit Name 44**]
   for presumed urosepsis,  intubated on [**1-18**] for worsening acidosis and
   MS changes.
   .
   #SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): etiology presumed urosepsis
   with positive UA growing out pan sensitive Pseudomonas, now day 7 of
   Zosyn.  Pt is s/p Intubation on [**1-18**] for worsening acidosis/MS
   changes.  Pt had transient hypotensive episode with worsening acidosis
   on [**1-20**]-intermittently requiring pressors. WBC now trending down,
   afebrile, no recurrence of hypotension.  Further infectious work up neg
   to date, L chest U/S neg for abscess,Bone scan negative.
   - apprec ID consult, continue Zosyn day [**7-3**]
   - bone scan- no lytic lesions or metastatic dz
   - Blood Cx NGTD, Urine culture + 2 diff pseudomonas, both pan
   sensitive.  Sputum + yeast
   - gentle bolus of 250 LR prn to maintain Maps>65
   - will repeat cultures if any recurrence of hypotension
   .
   #SHOCK, CARDIOGENIC: Pt with severe AS & CHF with EF 45% developed Afib
   with RVR and became hypotensive on [**1-18**]. Pressure responded to IVF &
   pressors.  Pt was intubated and pressors weaned. Pt has been in/out of
   Afib but HR better controlled on digoxin.  Transiently hypotensive on
   [**1-20**], required pressors approx 5hrs, likely due to severe AS and
   preload dependence. Pt with extravasc volume overload and complicated
   fluid balance.
   - continue Digoxin 0.125mg every other day, avoid CCB/BBs
   - no plan for systemic anticoagulation currently, daily risk of CVA
   very low
   - schedule metolazone and lasix daily, repeat in pm if volume up
   - EKG today
   .
   # RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR with effusions R>L & pulm edema.  CT showed possible
   airspace disease in [**Last Name (LF) 1056**], [**First Name3 (LF) **] have been [**12-25**] aspiration peri-intubation.
   WBC ct down, it is unlikely that this due to a new PNA, but will
   reculture and broaden Abx if pt clinically deteriorates.  Pulm edema
   and extravascular volume overload may be a barrier to extubation.
   - tolerated [**3-28**] well.  ABGs show normal acid base status, oxygenating &
   ventilating well.
   - RSBI 53, will attempt extubation today
   .
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Pt with oliguric
   renal failure likely [**12-25**] hypoperfusion vs ATN in setting of shock.
   Creatinine improved & having increased UOP. Acidosis improved on vent
   with AC, unclear etiology of metabolic acidosis leading to intubation.
   Apprec renal recs,  will admin Lasix & Metolazone this am to attempt
   diuresis.  Improved urine output but Cr still well above baseline.
   - monitor i/os, goal net negative
   - renally dose all meds
   - continue phoslo TID
   .
   # AORTIC STENOSIS: AS with valve area of 0.7cm, very preload dependant
   & delicate fluid balance.  Gentle bolus with 250cc LR prn to maintain
   MAP>60
   - continue digoxin, monitor daily CXR & resp status, avoid volume
   overload preventing successful extubation
   .
   # URINARY TRACT INFECTION (UTI): presumed source of infection with UA +
   pseudomonas, pan sensitive
   - continue Zosyn day [**7-3**] renally dosed
   - repeat UA
 test of cure
   # LEFT HIP PAIN: Etiology unclear but not an infectious source. Not a
   septic joint on admission, but clearly painful on manipulation now.  CT
   neg for joint effusion, bone scan neg for pathologic
   fracture/metastatic lesion
   - continue Fentanyl for pain control
   -          Tylenol and dilaudid for pain prn
   Thrombocytopenia
 baseline 50-70s, 47 this am
   - re-check pm plts
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-1-23**] 04:00 AM 35 mL/hour
 NPO for
   extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2163-01-23 14:36:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 86 yo F with severe AS, h/o renal cell and ovarian ca who
   presented with L hip pain and hypotension, in ICU with pseudomonal
   urosepsis c/b  Afib/RVR, ARF (ATN)  and respiratory failure
   24 Hour Events:
   metolazone and lasix with good response
   abg stable on PS 5 and 5 this am
   RSBI 53
   History obtained from Family / Friend, house staff
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-23**] 11:33 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2163-1-23**] 04:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-23**] 02:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 68 (67 - 114) bpm
   BP: 108/32(56) {101/32(56) - 174/62(101)} mmHg
   RR: 19 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 62 kg
   Height: 60 Inch
   CVP: 15 (4 - 15)mmHg
   Total In:
                                                                  1,203 mL
                                                                    453 mL
   PO:
   TF:
                                                                    841 mL
                                                                    345 mL
   IVF:
                                                                    252 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,532 mL
                                                                  1,550 mL
   Urine:
                                                                  1,532 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -329 mL
                                                                 -1,097 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (325 - 428) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 53
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.37/45/129/23/0        on PS([**8-28**])
   Ve: 6.4 L/min
   PaO2 / FiO2: 430
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 2+, Left: 2+, Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   Tone: Decreased
   Labs / Radiology
   8.6 g/dL
   47 K/uL
   144 mg/dL
   3.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   69 mg/dL
   110 mEq/L
   138 mEq/L
   26.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2163-1-21**]  12:18 AM
                             [**2163-1-21**]  04:56 AM
                             [**2163-1-21**]  05:04 AM
                             [**2163-1-21**]  03:43 PM
                             [**2163-1-21**]  06:34 PM
                             [**2163-1-22**]  05:00 AM
                             [**2163-1-22**]  05:14 AM
                             [**2163-1-22**]  07:41 PM
                             [**2163-1-23**]  04:35 AM
                             [**2163-1-23**]  04:47 AM
   WBC
   14.7
   7.8
   7.4
   Hct
   28.9
   27.4
   26.6
   Plt
   72
   51
   47
   Cr
   3.1
   2.9
   3.1
   TCO2
   21
   21
   22
   24
   22
   25
   27
   Glucose
   161
   132
   144
   Other labs: PT / PTT / INR:13.0/36.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: cxr--increased in r hemidiapragm elevation, with known
   chrionic changes from pelurodesis
   Microbiology: no new micro
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hypotension, in ICU with pseudomonal urosepsis c/b
   Afib/RVR, ARF (ATN)  and respiratory failure
   Overall improving, volume status and underlying severe AS complicating
   wean, though has been diuresing well
   Active issues remains:
   > Respiratory failure
doing well w/ minimal vent support, alert and
   following commands, rsbi 50's and diuresing nicely.  CXR essentially
   stable with chronic changes at R base (h/o R pleurodesis)
          Check abg on PS 5/5 and if remains stable would extubate.
   Consider trial of NPPV if problems with oxygenation/chf post
   extubation
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) atn from sepsis and
   hypotension
         Entering auto-diureses phase of atn and expect to start seeing
   improvement in creatinine
         Continue thiazide and lasix (goal 500-1 L negative as BP
   tolerates)
         Continue phos binder and renal dosing of meds
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-pseudomonal urosepsis,
   resolved
        Complete  zosyn course day [**7-3**]
        Repeat ucx for surveillance though clinically improved
         Remains af with normal wbc ct
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension and severe AS, resolved
              mobilizing fluids, continue dig, BP stable
              continue diuresis
 ATRIAL FIBRILLATION (AFIB)-
             appears nsr now with ectopy
 check 12 lead
             Continue dig
      Daily stoke risk low and would not anticoagulate at this time given
   low plts at baseline, though would reassess as clinical picture
   improves as may remain in paroxysmal afib
   >  thrombocytopenia--baseline thrombocytopenia in 50-70 range, with
   initial elevation here likely from hemoconcentration and now appears at
   baseline, dic labs negative and HUS/TTP unlikely,  follow for further
   reduction from baseline, continue heparin products for now given low
   suspicion for HIT, recheck plt later today given slight decrease from
   51-47
   >  anemia-  h/h now stable, transfuse for < 21 or active bleed or if
   hypotension
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)--f/u on additional oncological hx
        Hip pain--dose not seem source of infection, given pain have
   further evaluated with bone scan which was  negative,
   Continue lido patch, readdress pain level once extubated
dilaudid or
   tylenol once fent gtt is of
   ICU Care
   Nutrition:
   Comments: NPO pending extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Comments: plan to place peripherals and d/c lines tomorrow
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-01-24 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - EXTUBATED [**2163-1-23**] 03:43 PM
   - plts trending down 47>43
   - scheduled metolazone and lasix qam
   Pt sleeping comfortably & sating well on 2L NC
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2163-1-24**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 66 (66 - 83) bpm
   BP: 116/35(62) {100/32(54) - 152/51(83)} mmHg
   RR: 39 (17 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 62 kg
   Height: 60 Inch
             Total In:
                                                                    513 mL
                                                                     50 mL
   PO:
             TF:
                                                                    345 mL
   IVF:
                                                                    138 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    840 mL
   Urine:
                                                                  2,720 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,207 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 333 (325 - 333) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.38/45/99.[**Numeric Identifier 253**]/23/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 333
   Physical Examination
   GEN: NAD, sleeping comfortably, anasarca
   CV: RRR no m/r/g
   RESP: crackles bilaterally at bases, moving air well, no e/o resp
   ditress
   ABD: edematous, NTTP/NABS, soft
   EXTR: +2 pitting edema bilaterally
   Labs / Radiology
   CXR [**2163-1-23**]
    A single portable image of the chest was obtained and compared to
   prior examinations dated [**2163-1-21**] and [**2163-1-22**].  Allowing for slight
   differences in technique, there is no significant interval change.  Mul
   tiple
   wires project over the left hemithorax.  The endotracheal and nasogastr
   ic
   tubes and central venous catheter and Port-A-Cath are grossly unchanged
    and in
   satisfactory positions.  The cardiomediastinal silhouette is grossly
   unchanged.  A large right pleural effusion is seen.  The left costophre
   nic
   angle is not included on the image, but there is a hazy opacity at the
   left
   base suggesting underlying effusion.
   IMPRESSION:  Stable examination as above
   40 K/uL
   8.3 g/dL
   91 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   69 mg/dL
   109 mEq/L
   142 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2163-1-22**]  05:14 AM
                             [**2163-1-22**]  07:41 PM
                             [**2163-1-23**]  04:35 AM
                             [**2163-1-23**]  04:47 AM
                             [**2163-1-23**]  02:54 PM
                             [**2163-1-23**]  04:08 PM
                             [**2163-1-23**]  05:58 PM
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
   WBC
   7.4
   6.1
   Hct
   26.6
   25.4
   Plt
   47
   42
   40
   Cr
   3.1
   2.9
   TCO2
   22
   25
   27
   25
   24
   26
   28
   Glucose
   144
   91
   Other labs: PT / PTT / INR:13.0/36.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   86 y/o F with PMHx of severe AS & CHF p/w Left hip pain, adm to [**Hospital Unit Name 44**]
   for presumed urosepsis,  intubated on [**1-18**] for worsening acidosis and
   MS changes.
   #SEPSIS: etiology presumed urosepsis with positive UA growing out pan
   sensitive Pseudomonas, now day 7 of Zosyn.  Pt is s/p Intubation on
   [**1-18**] for worsening acidosis/MS changes.  Pt had transient hypotensive
   episode with worsening acidosis on [**1-20**]-intermittently requiring
   pressors. WBC now trending down, afebrile, no recurrence of
   hypotension.  Further infectious work up neg to date, L chest U/S neg
   for abscess,Bone scan negative
   - apprec ID consult, continue Zosyn day [**8-3**]
   - bone scan- no lytic lesions or metastatic dz
   - Blood Cx NGTD, Urine culture + 2 diff pseudomonas, both pan
   sensitive.  Sputum + yeast
   - gentle bolus of 250 LR prn to maintain Maps>65
   #SHOCK, CARDIOGENIC: Pt with severe AS & CHF with EF 45% developed Afib
   with RVR and became hypotensive on [**1-18**]. Pressure responded to IVF &
   pressors.  Pt was intubated and pressors weaned. Pt has been in/out of
   Afib but HR better controlled on digoxin.  Transiently hypotensive on
   [**1-20**], required pressors approx 5hrs, likely due to severe AS and
   preload dependence. Pt with extravasc volume overload and complicated
   fluid balance
   - continue Digoxin 0.125mg every other day, avoid CCB/BBs
   - no plan for systemic anticoagulation currently, daily risk of CVA
   very low
   - schedule metolazone and lasix daily, repeat in pm if volume up
   - EKG shows sinus with RBBB, frequent PACs.  Will repeat this am for ?
   st depressions
   # RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR with effusions R>L & pulm edema.  CT showed possible
   airspace disease in [**Last Name (LF) 1056**], [**First Name3 (LF) **] have been [**12-25**] aspiration peri-intubation.
   WBC ct down, it is unlikely that this due to a new PNA, but will
   reculture and broaden Abx if pt clinically deteriorates.  Pulm edema
   and extravascular volume overload may be a barrier to extubation.
   - tolerated [**3-28**] well.  ABGs show normal acid base status, oxygenating &
   ventilating well.
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Pt with oliguric
   renal failure likely [**12-25**] hypoperfusion vs ATN in setting of shock.
   Creatinine improved & having increased UOP. Acidosis improved on vent
   with AC, unclear etiology of metabolic acidosis leading to intubation.
   Apprec renal recs,  will admin Lasix & Metolazone this am to attempt
   diuresis.  Improved urine output but Cr still well above baseline.
   - monitor i/os, goal net negative
   - renally dose all meds
   - continue phoslo TID
   # AORTIC STENOSIS: AS with valve area of 0.7cm, very preload dependant
   & delicate fluid balance.  Gentle bolus with 250cc LR prn to maintain
   MAP>60
   - continue digoxin, monitor daily CXR & resp status, avoid volume
   overload preventing successful extubation.
   # URINARY TRACT INFECTION (UTI): presumed source of infection with UA +
   pseudomonas, pan sensitive
   - continue Zosyn day [**7-3**] renally dosed
   - repeat UA
 test of cure
   # LEFT HIP PAIN: Etiology unclear but not an infectious source. Not a
   septic joint on admission, but clearly painful on manipulation now.  CT
   neg for joint effusion, bone scan neg for pathologic
   fracture/metastatic lesion
   - continue Fentanyl for pain control
   -Tylenol and dilaudid for pain prn
   #Thrombocytopenia
 baseline 50-70s, 47 this am
   - re-check pm plts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2163-01-24 12:11:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   extubated yesterday
   diruesing
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2163-1-24**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-24**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 71 (66 - 83) bpm
   BP: 139/44(76) {100/32(54) - 152/52(85)} mmHg
   RR: 28 (17 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 62 kg
   Height: 60 Inch
   CVP: 11 (10 - 12)mmHg
   Total In:
                                                                    513 mL
                                                                     50 mL
   PO:
   TF:
                                                                    345 mL
   IVF:
                                                                    138 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                  1,495 mL
   Urine:
                                                                  2,720 mL
                                                                  1,495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,207 mL
                                                                 -1,445 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 333 (333 - 333) mL
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 100% (2L)
   ABG: 7.38/45/99.[**Numeric Identifier 253**]/23/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 333
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), nsr
   with ectopy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 2+, Left: 2+, RUE with increased edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   40 K/uL
   91 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   69 mg/dL
   109 mEq/L
   142 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2163-1-22**]  05:14 AM
                             [**2163-1-22**]  07:41 PM
                             [**2163-1-23**]  04:35 AM
                             [**2163-1-23**]  04:47 AM
                             [**2163-1-23**]  02:54 PM
                             [**2163-1-23**]  04:08 PM
                             [**2163-1-23**]  05:58 PM
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
   WBC
   7.4
   6.1
   Hct
   26.6
   25.4
   Plt
   47
   42
   40
   Cr
   3.1
   2.9
   TCO2
   22
   25
   27
   25
   24
   26
   28
   Glucose
   144
   91
   Other labs: PT / PTT / INR:13.0/36.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Imaging: no new imaging
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hypotension, with resolved pseudomonal urosepsis
   c/b  Afib/RVR, ARF (ATN)  and respiratory failure stable since
   extubation
   Active issues remains:
   > Respiratory failure
stable since extibation with excellent
   ventilation and oxygetation  still with significant vol o/l with
   ciontnued good response to diuresis, stable cxr appearanced (h/o r
   pleurodesis)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) atn from sepsis and
   hypotension
         Entering auto-diureses phase of atn and expect to start seeing
   improvement in creatinine
         Continue thiazide and lasix (goal 500-1 L negative as BP
   tolerates) as she is somewhat preload dep with sig AS
         Continue phos binder and renal dosing of meds
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-pseudomonal urosepsis, now
   resolved
        complete  zosyn course day [**8-3**]
        Repeat ucx for surveillance is pending though clinically improved
        Remains af with normal wbc ct
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension and severe AS, resolved
              mobilizing fluids, continue dig, BP stable
              continue diuresis
 ATRIAL FIBRILLATION (AFIB)- now in sinus rythm w/ ectopy
 check 12
   lead
             Continue dig for now though this could be d/c'd if she
   rtemains stable in NSR
             Daily stoke risk low and would not anticoagulate at this time
   given low plts at baseline, though would reassess as clinical picture
   improves as may remain in paroxysmal afib
   >  thrombocytopenia--baseline thrombocytopenia in 50-70 range, with
   initial elevation here likely from hemoconcentration and now appears at
   baseline, dic labs negative and HUS/TTP unlikely,  follow for further
   reduction from baseline, although low suspicion for hit--will d/c hepo
   products and send hit panel, start pneumoboots
   >  anemia-  h/h now stable, transfuse for < 21 or active bleed or if
   hypotension
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)--f/u on additional oncological hx
    > Hip pain--dose not seem source of infection, given pain have further
   evaluated with bone scan which was  negative,
   Continue lido patch, readdress pain level once extubated dilaudid
   > delirium--sundowning, would start zyprexa, d/c foley as ms [**First Name (Titles) 1342**]
[**Last Name (Titles) **]ICU Care
   Nutrition:
   Comments: crushed pills, speech and swallow and advance with
   supervision pending assessment
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Presep Catheter - [**2163-1-16**] 07:05 PM
   Arterial Line - [**2163-1-17**] 04:15 PM
   Comments: d/c central line and a-line, using porta cath and try for
   peripherals
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-01-25 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - STOP [**2163-1-24**] 12:06 PM
 ARTERIAL LINE - STOP [**2163-1-24**] 12:06 PM
   - all heparin products d/c'd for plts 40, HIT Ab sent
   - diuresing & developped A.Fib with RVR, BP stable, responded to IV
   bolus but required Metoprolol 5mg IV x 1 for rate control
   - MS [**First Name (Titles) **] [**Last Name (Titles) 1355**], S/S recommended NPO till further evaluation
   Pt still confused this am, was awake most of the night.
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2163-1-24**] 08:00
   Metoprolol - [**2163-1-24**] 11:25 PM
   Other medications:
   Colace, Allopurinol, ISS, Lidocaine patch, Famotidine, Lasix prn,
   Olanzapine
   Flowsheet Data as of  [**2163-1-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.6
   HR: 89 (66 - 120) bpm
   BP: 111/36(56) {100/29(47) - 138/61(71)} mmHg
   RR: 24 (17 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 62 kg
   Height: 60 Inch
    CVP: 11 (10 - 12)mmHg
   Total In:
                                                                  2,050 mL
                                                                    463 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  1,750 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                    710 mL
   Urine:
                                                                  3,275 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                   -247 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GEN: NAD, confused, talking
   HEENT: anasarca, diffuse edema
   CV: RRR gr 3 SEM over LSB, does not radiate
   RESP: crackles bilaterally at bases, otherwise clear
   Abd: [**Month (only) 38**] BS, NTTP, ND, edematous
   Extr: +2 pitting edema bilaterally
   Sacrum: skin tears, ecchymosis and diffuse intertriguin. rash
   Labs / Radiology
   40 K/uL
   8.3 g/dL
   109 mg/dL
   2.9 mg/dL
   26 mEq/L
   3.6 mEq/L
   70 mg/dL
   110 mEq/L
   146 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2163-1-23**]  04:47 AM
                             [**2163-1-23**]  02:54 PM
                             [**2163-1-23**]  04:08 PM
                             [**2163-1-23**]  05:58 PM
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
                             [**2163-1-24**]  12:00 PM
                             [**2163-1-24**]  06:00 PM
                             [**2163-1-24**]  09:55 PM
   WBC
   6.1
   Hct
   25.4
   Plt
   42
   40
   Cr
   2.9
   2.9
   TCO2
   27
   25
   24
   26
   28
   Glucose
   91
   115
   114
   109
   Other labs: PT / PTT / INR:13.0/36.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Blood Cx NGTD [**1-18**]
   Urine Cx NGTD  [**1-23**]
   C. Diff neg x 5
   Assessment and Plan
   86 y/o F with PMHx of severe AS & CHF p/w Left hip pain, adm to [**Hospital Unit Name 44**]
   for presumed urosepsis, intubated on [**1-18**] for worsening acidosis &
   extubated successfully on [**2163-1-23**].
   #SEPSIS: resolved, presumed urosepsis with positive UA + for pan [**Last Name (un) **]
   Pseudomonas, now day [**9-2**] Zosyn.  Pt was intubated on [**1-18**] for
   worsening acidosis/MS changes, successfully extubated on [**1-23**]. WBC
   trended down, afebrile, no recurrence of hypotension.  Other infectious
   w/u neg to date, L chest U/S neg for abscess,Bone scan neg
   - Zosyn day [**9-2**] today
   - bone scan- no lytic lesions or metastatic dz
   - Blood Cx NGTD, Urine culture + 2 diff pseudomonas, both pan
   sensitive.  Sputum + yeast
   #CV: Pt with severe AS & CHF with EF 45%. Pt was aggressively diuresed
   and developped Afib with RVR again overnight, responded to IV bolus &
   BB.  Pt with massive extravascular volume overload, will need to be
   slowly diuresed as pt is very preload dependant & tends to develop
   A.Fib with RVR when preload drops.
   - continue Digoxin 0.125mg every other day
   - no plan for systemic anticoagulation for intermittent A.Fib given
   daily risk of CVA low, may need to reconsider as outpt
   - Lasix 120mg IV prn for a goal of neg 1L/day
   # RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR with effusions R>L & pulm edema.  CT showed possible
   airspace disease in [**Last Name (LF) 1056**], [**First Name3 (LF) **] have been [**12-25**] aspiration peri-intubation,
   more likely chronic changes [**12-25**] to right sided pleurodeisis. Pt
   extubated successfully on [**1-23**] and currently sating well on 2L NC.
   - continue with supplemental O2 & diuresis goal of neg 1L/day
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): s/p oliguric renal
   failure likely [**12-25**] hypoperfusion vs ATN in setting of shock. UOP
   currently improving. Apprec renal recs, will admin Lasix 120mg IV to
   continue diuresis, avoid aggressive volume loss, appears to precipitate
   A. Fib with RVR.  Monitor creatinine with diuresis
   - monitor i/os, goal net negative 1000cc/day
   - renally dose all [**Month/Day (2) 1361**]
   # URINARY TRACT INFECTION (UTI): presumed source of infection with UA +
   pseudomonas, pan sensitive
   - continue Zosyn day [**9-2**] renally dosed
   - d/c foley as soon as possible, PT consulted to help mobilize patient
   # MS changes: Pt with delirium likely secondary to intubation,
   polypharmacy & prolonged ICU stay.
   - d/c restraints when possible
   - continue Olanzapine [**Hospital1 **]
   - speech & swallow f/u eval prior to adv diet, high risk of aspiration
   # LEFT HIP PAIN: Etiology unclear but unlikely due to infectious
   source. Not a septic joint on admission, but clearly painful on
   manipulation now.  CT neg for joint effusion, bone scan neg for
   pathologic fracture/metastatic lesion
   -Tylenol standing to avoid MS [**First Name (Titles) 1362**] [**Last Name (Titles) 1361**]
   - PT consulted
   #Thrombocytopenia
 pt has baseline plt ct 50-70s, trended down over
   last 2 days.  Heparin products held [**2163-1-24**] & plts came up today at 58.
   Concern for HITs but suspician very low.
   -continue holding heparin products and f/u HIT Ab
   ICU Care
   Nutrition: NPO for now, pending s/s eval
   Glycemic Control: ISS
   Lines: Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 blocker
   Code status: DNR (do not resuscitate)
   Disposition: possibly out to floor later today

2163-01-25 10:01:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  86 yo F with severe AS, h/o renal cell and ovarian ca who
   presented with L hip pain and hypotension, with resolved pseudomonal
   urosepsis c/b a-fib/RVR, ARF (ATN), delirium and respiratory failure
   stable since extubation
   24 Hour Events:
 PRESEP CATHETER - STOP [**2163-1-24**] 12:06 PM
 ARTERIAL LINE - STOP [**2163-1-24**] 12:06 PM
   afib with rvr overnight, response to IVF and metoprolol
   failed speech and swallow,
   a line and r ij d/c'd
   History obtained from house staff
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2163-1-24**] 11:25 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-25**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.5
C (95.9
   HR: 143 (69 - 143) bpm
   BP: 106/44(60) {100/29(47) - 138/61(71)} mmHg
   RR: 25 (17 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.8 kg (admission): 62 kg
   Height: 60 Inch
   CVP: 11 (11 - 12)mmHg
   Total In:
                                                                  2,050 mL
                                                                    767 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,750 mL
                                                                    527 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                    950 mL
   Urine:
                                                                  3,275 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, confused
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases r> L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   confused, Movement: Purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   58 K/uL
   156 mg/dL
   3.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   69 mg/dL
   106 mEq/L
   143 mEq/L
   25.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2163-1-23**]  02:54 PM
                             [**2163-1-23**]  04:08 PM
                             [**2163-1-23**]  05:58 PM
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
                             [**2163-1-24**]  12:00 PM
                             [**2163-1-24**]  06:00 PM
                             [**2163-1-24**]  09:55 PM
                             [**2163-1-25**]  05:59 AM
   WBC
   6.1
   5.7
   Hct
   25.4
   25.8
   Plt
   42
   40
   58
   Cr
   2.9
   2.9
   3.0
   TCO2
   25
   24
   26
   28
   Glucose
   91
   115
   114
   109
   156
   Other labs: PT / PTT / INR:13.0/36.2/1.1, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Imaging: cxr--b/l effusions, small volumes, chronic changes R base
   Microbiology: urine [**1-23**] ngtd,
   c diff neg mulitple
   blood ngtd
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hypotension, with resolved pseudomonal urosepsis
   c/b a-fib/RVR, ARF (ATN), delirium and respiratory failure,  stable
   since extubation
   Active issues remains:
 ATRIAL FIBRILLATION (AFIB)- recurrent afib overnight likely in
   setting of significant diuresis and volume shifts, improving with ivf
   and BB
             Continue dig, BB prn, monitor u/o and lasix prn
             Daily stoke risk low and would not anticoagulate at this time
   given low plts at baseline, though would reassess as clinical picture
   improves as may remain in paroxysmal afib
   >  thrombocytopenia--baseline thrombocytopenia in 50-70 range, with
   initial elevation here likely from hemoconcentration then at abseline,
   heparin products d/c'd yesterday and hit panel sent given
       slow drop, though low suspicion of hit.  Now improved and at prior
   baseline.  ,
   > delirium-- icu and impaired sleep wake cycle, narcotics, continue
   zyprexa, reorient, optimize sleep cycle at night
          limit narcotics
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) atn from sepsis and
   hypotension
         Entering auto-diureses phase of atn and expect to start seeing
   improvement in creatinine
         Continue phos binder and renal dosing of meds
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-pseudomonal urosepsis, now
   resolved
        completing  zosyn course day [**9-2**]
        Remains af with normal wbc ct
        d/c foley as mental status clears
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension and severe AS, resolved
              mobilizing fluids, continue dig, BP stable
    > Hip pain--dose not seem source of infection, given pain have further
   evaluated with bone scan which was  negative,
        continue lido patch, readdress pain level once extubated dilaudid
   ICU Care
   Nutrition:
   Comments: NPO, repeat speech and swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: PT consult
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU, possible floor transfer later if heart rate stable,
   given recurrent afib w/rvr
   Total time spent: 45 minutes

2163-01-26 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- significantly more delerious
   -- 2 episodes of AF w/ RVR requiring iv metoprolol w/ improvement
   -- started on 12.5mg po metoprolol standing
   -- too delerious for swallow study, cont pleasure feeding w/ thickened
   diet, but recommended TF until resolves, patient too delerious to
   approach for NG tube placement
   -- completed zosyn course
   Pt confused, not speaking in sentences or responding appropriately to
   questions
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam last dose [**2163-1-25**]
   Infusions:
   Other ICU medications:
   Metoprolol - [**2163-1-25**] 03:30 PM
   Furosemide (Lasix) - [**2163-1-25**] 10:59 PM
   Other medications:
   Allopurinol, Tamoxifen, Famotidine, Phoslo, Olanzapine, Colace,
   Metoprolol, digoxin
   Flowsheet Data as of  [**2163-1-26**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 77 (63 - 143) bpm
   BP: 130/39(62) {101/19(41) - 134/70(78)} mmHg
   RR: 33 (16 - 41) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 62 kg
   Height: 60 Inch
             Total In:
                                                                  1,577 mL
                                                                     75 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,337 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  1,400 mL
   Urine:
                                                                  2,240 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -663 mL
                                                                 -1,325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   GEN: NAD, confused, anasarca improved, noncompliant with exam
   CV: RRR  harsh gr 3 SEM over LSB
   RESP: pt not compliant with exam, crackles at LLL  base, [**Month (only) 38**] BS over
   RLL base
   ABD: soft, NT, ND, [**Month (only) 38**] BS:
   EXTR: [**Month (only) 38**] edema still +[**11-24**] pitting bilaterally
   Labs / Radiology
   CXR from [**2163-1-26**] pending
   60 K/uL
   8.5 g/dL
   95 mg/dL
   2.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   67 mg/dL
   107 mEq/L
   148 mEq/L
   25.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2163-1-23**]  05:58 PM
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
                             [**2163-1-24**]  12:00 PM
                             [**2163-1-24**]  06:00 PM
                             [**2163-1-24**]  09:55 PM
                             [**2163-1-25**]  05:59 AM
                             [**2163-1-25**]  03:09 PM
                             [**2163-1-26**]  04:32 AM
   WBC
   6.1
   5.7
   7.0
   Hct
   25.4
   25.8
   25.9
   Plt
   42
   40
   58
   60
   Cr
   2.9
   2.9
   3.0
   2.8
   2.8
   TCO2
   26
   28
   Glucose
   91
   115
   114
   109
   156
   125
   95
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   No new culture data
   Free water deficit of approx 2.5L
   ASSESSMENT & PLAN:
   86 y/o F with PMHx of severe AS & CHF p/w Left hip pain, adm to [**Hospital Unit Name 44**]
   urosepsis, s/p extubation on [**2163-1-23**], still having intermittent A.fib
   with RVR and delirium.
   .
   # A.Fib/CV: Pt with severe AS & CHF with EF 45%. Pt has been
   aggressively diuresed and developped Afib with RVR again overnight,
   responded to IV Lopressor.  Started on Metoprolol 12.5mg [**Hospital1 **]. Pt with
   extravascular volume overload but intravascularly dry.  (free water
   deficit of 2.5L, with rising Na) Pt very preload dependant & tends to
   develop A.Fib with RVR when preload drops.  Holding diuresis today and
   watching resp status, will get CXR today to better eval lung fields.
   - continue Digoxin 0.125mg every other day, increase Metoprolol to 25mg
   [**Hospital1 **] today
   - no plan for systemic anticoagulation currently for intermittent A.Fib
   given other co-morbidities
   .
   #SEPSIS/UTI: resolved, presumed urosepsis with UCx positive for
   Pseudomonas, completed 10/10 days of Zosyn.  Pt was intubated on [**1-18**]
   for worsening acidosis/MS changes, successfully extubated on [**1-23**]. WBC
   down, afebrile, no recurrence of hypotension.  Other infectious w/u
   neg, L chest U/S neg for abscess,Bone scan neg
   - Blood Cx NGTD, Urine culture was + 2 diff pseudomonas, both pan
   sensitive, s/p 10 days of Zosyn
   .
   # RENAL FAILURE, ACUTE: Pt developed oliguric renal failure likely [**12-25**]
   hypoperfusion vs ATN in setting of shock. UOP improved & responded well
   to Lasix diuresis.  Now with rising Na & free water deficit of approx
   2.5L likely due to large insensible losses. Hold diurectics today, will
   admin D5W at 75cc/hr for total of 1L.
   - monitor i/os, goal net negative even
   - renally dose all [**Month/Day (2) 1361**]
   .
   # RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR with effusions R>L & pulm edema.  CT showed ?airspace
   disease in RLL likely chronic changes [**12-25**] to h/o right sided
   pleurodeisis. Pt extubated successfully on [**1-23**] and currently sating
   well on 2L NC.  Pt intermittently tachypneic likely [**12-25**] agitation, will
   f/u CXR today
   -continue with supplemental O2 & goal even i/os
   .
   # MS changes: Pt with delirium likely secondary to intubation,
   polypharmacy & prolonged ICU stay.  Sleep/wake cycles now very
   disturbed, will d/c H2 blocker, holding all narcotics.  All restraints
   have been removed, line
s d/c
   - consult Geripsych today
   - continue Olanzapine [**Hospital1 **]
   - speech & swallow f/u eval prior to adv diet, high risk of aspiration
   .
   # LEFT HIP PAIN: Etiology unclear but unlikely due to infectious
   source. CT neg for joint effusion, bone scan neg for pathologic
   fracture/metastatic lesion. PT consulted.
   -Tylenol standing to avoid MS [**First Name (Titles) 1362**] [**Last Name (Titles) 1361**]
   .
   #Thrombocytopenia
 pt has baseline plt ct 50-70s, trended down over
   last 2 days.  Heparin products held [**2163-1-24**] & plts slightly increased
   today at 60. Suspician of HITS very low but will f/u HIT Ab currently
   pending
   -continue holding heparin products fow now
   .
   # Wound: sacral skin breakdown & intertriguinous rash.
   - apprec wound care consult, will f/u recs
   - konair mattress with reg position changes
   ICU Care
   Nutrition: NPO
   Glycemic Control: ISS
   Lines: Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  d/c
d famotidine
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2163-01-26 12:33:00 Physician Attending Progress Note
Chief Complaint: urpsepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 86 yo F with severe AS, h/o renal cell and ovarian ca who
   presented with L hip pain and hypotension, with resolved pseudomonal
   urosepsis c/b a-fib/RVR, ARF (ATN), delirium and respiratory failure,
   stable since extubation
   24 Hour Events:
   a-fib with rvr to 140
,  given BB (metoprolol)
   very confused, awake all night
   metoprolol 12.5 [**Hospital1 **] started
   History obtained from house staff
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2163-1-25**] 03:30 PM
   Furosemide (Lasix) - [**2163-1-25**] 10:59 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-26**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 74 (63 - 124) bpm
   BP: 144/35(61) {101/19(41) - 144/70(78)} mmHg
   RR: 28 (16 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 62 kg
   Height: 60 Inch
             Total In:
                                                                  1,577 mL
                                                                    182 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,337 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  1,800 mL
   Urine:
                                                                  2,240 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -663 mL
                                                                 -1,619 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Oriented (to): confused, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   8.5 g/dL
   60 K/uL
   95 mg/dL
   2.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   67 mg/dL
   107 mEq/L
   148 mEq/L
   25.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2163-1-23**]  05:58 PM
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
                             [**2163-1-24**]  12:00 PM
                             [**2163-1-24**]  06:00 PM
                             [**2163-1-24**]  09:55 PM
                             [**2163-1-25**]  05:59 AM
                             [**2163-1-25**]  03:09 PM
                             [**2163-1-26**]  04:32 AM
   WBC
   6.1
   5.7
   7.0
   Hct
   25.4
   25.8
   25.9
   Plt
   42
   40
   58
   60
   Cr
   2.9
   2.9
   3.0
   2.8
   2.8
   TCO2
   26
   28
   Glucose
   91
   115
   114
   109
   156
   125
   95
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: no new imaging
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hypotension, with resolved pseudomonal urosepsis
   c/b a-fib/RVR, ARF (ATN), delirium and respiratory failure,  stable
   since extubation
   Active issues remains:
 ATRIAL FIBRILLATION (AFIB)- recurrent afib overnight
             Continue dig, started BB
             Daily stoke risk low and would not anticoagulate at this time
   given low plts at baseline, though would reassess as clinical picture
   improves as may remain in paroxysmal afib
    >  Delirium
continues to be main issue, large component of sundowning
   at night and altered sleep schedule [**12-25**]  icu,
         continue zyprexa, re-orient, optimize sleep cycle at night
         limit narcotics, head ct, [**Female First Name (un) 1290**] consult--delirium w/u (RPR,
   folate, tsh, b12)  if not yet performed
   >  hypoxemia--stable on minimal NC o2, recheck cxr
   >  Hypernatremia
free water deficit in setting of NPO and diuresis,
   maintenance with D 5 [**11-24**]--follow sodium
   >  Sacral abrasions--wound care following, mattress
   >  Nutrition--aspiration risk and agitated so will hold on placing NGT,
   and start maintenance ivf
   >  Thrombocytopenia--
       Low ate baseline, though low suspicion of hit, heparin products
   stopped and Hit panel sent,  Now improved and at prior baseline.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) atn from sepsis and
   hypotension
        Auto-diureses phase of atn, creatinine improving, holding on
   diuresis
        d/c phoslo
        Renal dosing of meds pending further improvement
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-pseudomonal urosepsis, now
   resolved
        Completed  zosyn course X 10 days
        Remains af with normal wbc ct
        d/c foley as mental status clears
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension and severe AS, resolved
        mobilizing fluids, continue dig, BB
   >  Hip pain--dose not seem source of infection, given pain have further
   evaluated with bone scan which was  negative,
        continue lido patch, tylenol
   ICU Care
   Nutrition:  NPO for aspiration risk, failed swallow study, maintenance
   IVF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2163-01-27 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Female First Name (un) 1290**] consult - decreased am dose of zyprexa to 2.5 mg, can use haldol
   prn
   In am:
   Pt developped AFib with RVR & became hypotensive during rounds.  MS
   continued to be poor, ABg stable, unable to place A-Line, BP responded
   to multiple boluses of IVF & received 1u pRBCs. Family meeting took
   place to address goals of care & pt was made DNR/DNI
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Allopurinol, Tamoxifen, ISS, Digoxin, Colace, Tylenol, Metoprolol,
   Olanzapine, PPI
   Flowsheet Data as of  [**2163-1-27**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 57 (57 - 94) bpm
   BP: 95/26(44) {55/25(42) - 144/53(68)} mmHg
   RR: 25 (20 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 62 kg
   Height: 60 Inch
             Total In:
                                                                    907 mL
                                                                    907 mL
   PO:
                                                                    160 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    747 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    155 mL
   Urine:
                                                                  2,490 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,583 mL
                                                                    752 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GEN: NAD, confused, not responded appropriately to questions
   HEENT:  JVP elevated
   CV: irreg/irreg  gr 3 harsh SEM over LSB (no appreciable diastolic
   murmur)
   RESP: CTAB no w/r apprec but not very compliant with exam
   ABD: soft/NT/ND/NABS
   EXTR: +[**11-24**] pitting edema bilaterally
   Labs / Radiology
   61 K/uL
   7.3 g/dL
   205 mg/dL
   3.1 mg/dL
   30 mEq/L
   3.7 mEq/L
   71 mg/dL
   107 mEq/L
   144 mEq/L
   22.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
                             [**2163-1-24**]  12:00 PM
                             [**2163-1-24**]  06:00 PM
                             [**2163-1-24**]  09:55 PM
                             [**2163-1-25**]  05:59 AM
                             [**2163-1-25**]  03:09 PM
                             [**2163-1-26**]  04:32 AM
                             [**2163-1-27**]  05:35 AM
   WBC
   6.1
   5.7
   7.0
   8.5
   Hct
   25.4
   25.8
   25.9
   22.5
   Plt
   40
   58
   60
   61
   Cr
   2.9
   2.9
   3.0
   2.8
   2.8
   3.1
   TCO2
   26
   28
   Glucose
   91
   115
   114
   109
   156
   125
   95
   205
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: RPR pending
   Vit B 12 elev
   Folate WNL
   Imaging: Portable CXR [**2163-1-26**]
   In comparison with the study of [**1-25**], there is no significant change
   in the appearance of the heart and lungs.  Bilateral pleural effusions
   with
   probable basilar atelectasis and some engorgement of the pulmonary
   vessels.
   Microbiology: NONE Pending
   Assessment and Plan
   86 y/o F with PMHx of severe AS & CHF p/w Left hip pain, adm to [**Hospital Unit Name 44**]
   urosepsis, s/p extubation on [**2163-1-23**], pt had recurrent A.fib with RVR
   this am, c/b hypotension that responded to repeat IV fluid boluses &
   continued delirium.
   .
   # A.Fib/CV: Pt with severe AS & CHF with EF 45%. Pt naturally diuresed
   >1.5L overnight and developped Afib with RVR again this am c/b
   hypotension responded to repeated IVF boluses. However, concern for
   worsening pulm edema & pt very delicate fluid balance with fixed aortic
   outflow obstruction.  Concern for aggressive fluid resuscitation
   sending pt into pulm edema, likely to compromise resp status & possible
   require intubation.  Family meeting regarding goals of care, pt
   currently DNR/DNI.
   - continue Digoxin 0.125mg every other day, holding Metoprolol for
   hypotension
   - f/u ABG
   - stat ECHO to r/o effusion/tamponade given hypotension, elev JVP &
   tachycardia (unable to assess pulsus)
   - no plan for systemic anticoagulation currently for intermittent A.Fib
   given other co-morbidities
   .
   #Hypotension: Pt recently completed a 10 day course of Zosyn for
   pseudomonas urosepsis, successfully extubated on [**1-23**]. WBC had trended
   down, afebrile. However, pt developed recurrent hypotension this am,
   likely cardiogenic but will rule out infectious causes & cover with
   empiric ABx until all Cx data negative at 48hrs
   - blood & urine Cx sent
   - starting Vanc/Zosyn renally dosed (follow up am Vanc level)
   - gentle bolus with LR prn
   .
   # RENAL FAILURE, ACUTE: Pt developed oliguric renal failure likely [**12-25**]
   hypoperfusion vs ATN in setting of shock. UOP improved & responded well
   to Lasix diuresis.  Na corrected with D5W but creatinine rose overnight
   to 3.1. Pt spontaneously diuresed 1.5L overnight) Today, UOP has
   dropped in setting of hypotension, avoiding volume overload/pulm edema,
   will bolus to maintain MAPs.
   - monitor creatinine
   - renally dose all [**Month/Day (2) 1361**]
   .
   # RESP FAILURE: Pt was intubated on [**1-18**] due to worsening acidosis & MS
   changes.  CXR with effusions R>L & pulm edema.  CT showed ?airspace
   disease in RLL likely chronic changes [**12-25**] to h/o right sided
   pleurodeisis. Pt extubated successfully on [**1-23**] and still maintaining
   sats on 2LNC, thought increased resp rate noted this am.
   - f/u stat ABG
   -continue with supplemental O2
   .
   # MS CHANGES: Pt with delirium likely secondary to intubation,
   polypharmacy & prolonged ICU stay.  Sleep/wake cycles now very
   disturbed.  All restraints have been removed, line
s d/c
   -apprec Geripsych recs, continue Olanzapine 2.5mg qam & 5mg qhs
   - consider sitter, consider ECHO
   - NPO for now, per s/s recs, high risk of aspiration
   .
   # LEFT HIP PAIN: Etiology unclear but unlikely due to infectious
   source. CT neg for joint effusion, bone scan neg for pathologic
   fracture/metastatic lesion. PT consulted.
   -Tylenol standing to avoid MS [**First Name (Titles) 1362**] [**Last Name (Titles) 1361**]
   .
   #Thrombocytopenia
 pt has baseline plt ct 50-70s, trended down over
   last 2 days.  Heparin products held [**2163-1-24**] & plts slightly increased
   today at 60. Suspician of HITS very low & specimen was never sent
   -continue holding heparin products for now
   .
   # Wound: sacral skin breakdown & intertriguinous rash.
   - kinair mattress with reg position changes
   - flexiseal prn loose stools
   - NS cleanser & apply criticaid with aquacel dressing
   ICU Care
   Nutrition:  NPO
   Glycemic Control: ISS
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   Code status: DNR/DNI
   Disposition: ICU
   ------ Protected Section ------
   Hypotension/[**Month (only) **] UOP: will transfuse with 1u pRBCs now for hct drop
   overnight and transient hypotension
   - monitor i/os
   - f/u pm hct
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2163-1-27**] 21:34 ------

2163-01-27 11:08:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   [**Last Name (LF) 1402**], [**First Name3 (LF) 1290**] consult appreciated
   harsh murmur
   this am--recurrent afib with rvr, bp's 90's lopressor held, fluid bolus
   and BB then hypotensive to 70's
   History obtained from house staff
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-27**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 78 (57 - 83) bpm
   BP: 98/33(47) {55/22(40) - 135/75(78)} mmHg
   RR: 36 (22 - 43) insp/min
   SpO2: 91%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 74.8 kg (admission): 62 kg
   Height: 60 Inch
             Total In:
                                                                    907 mL
                                                                  1,447 mL
   PO:
                                                                    160 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    747 mL
                                                                    967 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    155 mL
   Urine:
                                                                  2,490 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,583 mL
                                                                  1,292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin,
   Anxious, confused, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), do not
   appreciate diastoloc murmur or rub,irreg
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Rhonchorous: diffuse), poor air mvoement
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): confused, Movement: Non -purposeful,
   No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   61 K/uL
   205 mg/dL
   3.1 mg/dL
   30 mEq/L
   3.7 mEq/L
   71 mg/dL
   107 mEq/L
   144 mEq/L
   22.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2163-1-23**]  07:52 PM
                             [**2163-1-24**]  03:34 AM
                             [**2163-1-24**]  03:54 AM
                             [**2163-1-24**]  12:00 PM
                             [**2163-1-24**]  06:00 PM
                             [**2163-1-24**]  09:55 PM
                             [**2163-1-25**]  05:59 AM
                             [**2163-1-25**]  03:09 PM
                             [**2163-1-26**]  04:32 AM
                             [**2163-1-27**]  05:35 AM
   WBC
   6.1
   5.7
   7.0
   8.5
   Hct
   25.4
   25.8
   25.9
   22.5
   Plt
   40
   58
   60
   61
   Cr
   2.9
   2.9
   3.0
   2.8
   2.8
   3.1
   TCO2
   26
   28
   Glucose
   91
   115
   114
   109
   156
   125
   95
   205
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:39/8/0.11, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: folate nl, vit b12 high, tsh pending
   Imaging: cxr--no chnage, small volumes, chronic r changes, b/l effusion
   tracking up, congestion small volumes
   Microbiology: no new micro
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hypotension, with resolved pseudomonal urosepsis
   c/b a-fib/RVR, ARF (ATN), delirium and respiratory failure,  now with
   recurrant afib, hypotension
   Active issues remains:
   # hypotension--
            #   Recurrent afib this am, appears cardiogenic, likely
   ischemic in setting of severe AS, though infection possibility given
   off antibx
                 Continues to be senstivie to volume shifts, preload
   dependant but appears clinically asnd by imaging to be
                  Vol up
             Continue dig, hold bb, ecg, cardiac enzymes, echo to reasess
   as, wedge, blood transfuse though may require pressors, a-line
             Family discussions regarding goals of care
             Empiric antibx vanco/zosyn with cx's
             Daily stoke risk low and would not anticoagulate at this time
   given low plts at baseline, though would reassess as clinical picture
   improves as may remain in paroxysmal afib
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) atn from sepsis and
   hypotension now with recurrent hypotension
        Auto-diureses phase of atn with good u/o, creatinine stable
       blood and hemodynamic management as above
        Renal dosing of meds pending further improvement
    >  Delirium
continues to be main issue, large component of sundowning
   at night and altered sleep schedule [**12-25**]  icu, now with recurrent
   hyppotension
         continue low dose zyprexa, haldol prn, re-orient, optimize sleep
   cycle at night
      h2 b d/c and changed to PPI
         limit narcotics
       anticipate extremely slow recovery
   # anemia--transfuse colloid--prbc's given slow drop
   >  hypoxemia--stable on minimal NC o2 though with very tenuous
   respiratory status in setting of hypotension and severe AS, would prob
   not tol central line/lying flat without intubation, continue family
   discussion
   >  Hypernatremia
improving with free water, remains NPO and diuresis,
   >  Sacral abrasions--wound care following, mattress
   >  Nutrition--aspiration risk and agitated so will hold on placing NGT
   NPO given tenuous status
   >  Thrombocytopenia--
       Low ate baseline, though low suspicion of hit, heparin products
   stopped resend hit , Now improved and at prior baseline.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-pseudomonal urosepsis, now
   resolved
        Completed  zosyn course X 10 days
        Remains af with normal wbc ct
        d/c foley as mental status clears
 SHOCK, CARDIOGENIC--cardiogenic in setting of a-fib with RVR and
   hypotension and severe AS, resolved
        mobilizing fluids, continue dig, BB
   >  Hip pain--dose not seem source of infection, given pain have further
   evaluated with bone scan which was  negative,
        continue lido patch, tylenol
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2163-01-28 10:20:00 Physician Attending Progress Note
Chief Complaint: urosepsis, afib with rvr, delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   a rib with rvr and hyptension eysterday
   emporic antibx and pan cxs sent
    family mtg with goals of care-->  change in code status to dnr/dni, no
   lines poressors
   recurrent transient hypotension overnight responded to IVF blous
   remains agitated delirius
 BLOOD CULTURED - At [**2163-1-27**] 12:15 PM
   History obtained from house staff
   Allergies:
   Iodine
   Anaphylaxis;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Sulfonamides
   Rash;
   Morphine
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Levofloxacin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-1-27**] 12:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-1-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-1-27**] 10:10 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-1-28**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 113 (40 - 113) bpm
   BP: 115/42(66) {71/16(39) - 123/86(91)} mmHg
   RR: 24 (16 - 45) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.8 kg (admission): 62 kg
   Height: 60 Inch
             Total In:
                                                                  2,855 mL
                                                                    995 mL
   PO:
                                                                    480 mL
                                                                     20 mL
   TF:
   IVF:
                                                                  2,000 mL
                                                                    915 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    336 mL
                                                                    130 mL
   Urine:
                                                                    336 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,519 mL
                                                                    865 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.34/53/86/28/0
   Physical Examination
   General Appearance: No acute distress, agitated, confused, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, No(t) Wheezes : , Diminished: bases), poor coop with exam
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing,
   decreased edema
   Skin:  Warm
   Neurologic: Responds to: somnolent, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.6 g/dL
   68 K/uL
   68 mg/dL
   3.2 mg/dL
   28 mEq/L
   3.9 mEq/L
   74 mg/dL
   109 mEq/L
   146 mEq/L
   29.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2163-1-24**]  12:00 PM
                             [**2163-1-24**]  06:00 PM
                             [**2163-1-24**]  09:55 PM
                             [**2163-1-25**]  05:59 AM
                             [**2163-1-25**]  03:09 PM
                             [**2163-1-26**]  04:32 AM
                             [**2163-1-27**]  05:35 AM
                             [**2163-1-27**]  10:45 AM
                             [**2163-1-27**]  12:07 PM
                             [**2163-1-28**]  05:01 AM
   WBC
   5.7
   7.0
   8.5
   10.0
   Hct
   25.8
   25.9
   22.5
   29.4
   Plt
   58
   60
   61
   68
   Cr
   2.9
   3.0
   2.8
   2.8
   3.1
   3.2
   TropT
   0.20
   TCO2
   30
   Glucose
   115
   114
   109
   156
   125
   95
   205
   68
   Other labs: PT / PTT / INR:14.0/29.2/1.2, CK / CKMB /
   Troponin-T:39/3/0.20, ALT / AST:20/25, Alk Phos / T Bili:54/0.5,
   Differential-Neuts:91.2 %, Band:0.0 %, Lymph:4.2 %, Mono:4.5 %, Eos:0.1
   %, Fibrinogen:603 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL,
   LDH:124 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: vanco level 18
   dig level pending
   nr rpr
   Imaging: echo--mod sym lvh, ef 50%, mild 1+ ar, mod-sev as, mod 2+ mr
   sm peric eff without tamponande physiology
   no cxr today
   Microbiology: urine blood ngtd
   c diff pending
   Assessment and Plan
   86 yo F with severe AS, h/o renal cell and ovarian ca who presented
   with L hip pain and hypotension, with resolved pseudomonal urosepsis
   c/b a-fib/RVR, ARF (ATN), delirium and respiratory failure,  now with
   recurrant afib, hypotension
     family mtg yesterday with readdressing of goals of
   care--rtransitoning otward hsopice with dnr dni status and no pressors
   lines,
   Active issues remains:
   # hypotension--
   -          Recurrent afib with ongoing difficulty optiming vsaolume
   statius in setting of mod-to severe as
   -          Hypotension likely is cardiogenic, possible ischemia in
   setting of severe AS and reduced co, though infection possibility given
   compeltion of antibx
             -     Gentle ivf boluses, monitoring resp status
             -     Autodiureses and sensitive to volume shifts, preload
   dependant though appears volume up with elevated JVD and anasarca
             -     Continue dig, hold bb
             -    Empiric antibx vanco/zosyn with cx's--on stnading
   tylenol for pain so may not mount temp, now with mild increase in wbc,
   continue antibx X 48 hrs pednign cx data
   # RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) atn from sepsis and
   hypotension now with recurrent hypotension and worsening u/o and cr
        supportive care, monitor cr with gentle hydration for BP support,
   hold on diureses
        renal dosing of meds pending further improvement
   #  Delirium
multiple reasons, component of sundowning at night and
   altered sleep schedule [**12-25**]  icu, now with recurrent hypotension
         Continue low dose zyprexa, haldol prn, re-orient, optimize sleep
   cycle at night with light and dark cues
         h2 b d/c and changed to PPI
         limit narcotics
         anticipate extremely slow recovery
   >  hypoxemia--stable on minimal NC O2, nebs prn
   >  Hypernatremia
improving with free water
   >  Sacral abrasions--wound care following
   >  Nutrition--aspiration risk, nector thick diet with supervision
   >  Thrombocytopenia--
      baseline and stable, though low suspicion of hit, heparin products
   stopped resend hit , Now improved and at prior baseline.
   # pseudomonal urosepsis, now resolved
        Completed  zosyn course X 10 days
        Remains af with normal wbc ct follow up new cx data
   >  Hip pain--dose not seem source of infection, given pain have further
   evaluated with bone scan which was  negative,
        continue lido patch, tylenol
   ICU Care
   Nutrition:
   Comments: purre diet with supervision
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2163-1-16**] 07:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI, no lines pressors
   Disposition :Transfer to floor
   Total time spent: 45 minutes